2115-12-11 06:58:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 9924**] PROGRESS NOTE!
   Chief Complaint: cholangitis, acute lung injury
   24 Hour Events:
 ARTERIAL LINE - START [**2115-12-10**] 10:30 AM
 ERCP - At [**2115-12-10**] 01:19 PM
 INVASIVE VENTILATION - START [**2115-12-10**] 04:00 PM
 BLOOD CULTURED - At [**2115-12-11**] 05:00 AM
   Allergies: NKDA
   Last dose of Antibiotics:
   Vancomycin - [**2115-12-10**] 02:37 PM
   Piperacillin/Tazobactam (Zosyn) - [**2115-12-11**] 04:39 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Famotidine11/24/[**2115**] 07:57 AM
   Fentanyl - [**2115-12-10**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2115-12-11**] 05:35 AM
   Morphine Sulfate - [**2115-12-11**] 06:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-12-11**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 88 (73 - 88) bpm
   BP: 124/64(84) {85/50(61) - 137/77(97)} mmHg
   RR: 23 (15 - 24) insp/min
   SpO2: 87%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 161 kg (admission): 153 kg
    CVP: 22 (17 - 26)mmHg
   Total In:
                                                                  9,100 mL
                                                                  2,956 mL
   PO:
   TF:
   IVF:
                                                                  8,350 mL
                                                                  2,956 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    625 mL
                                                                    187 mL
   Urine:
                                                                    625 mL
                                                                    187 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,475 mL
                                                                  2,769 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (550 - 600) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 3
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 35 cmH2O
   Plateau: 28 cmH2O
   Compliance: 31.9 cmH2O/mL
   SpO2: 87%
   ABG: 7.38/32/85.[**Numeric Identifier 299**]/19/-4
   Ve: 11.2 L/min
   PaO2 / FiO2: 213
   Physical Examination
   GEN: morbidly obese gentleman, intubated, sedated but opening his eyes
   to voice
   HEENT: no scleral icterus or chemiosis
   CV: regular rate and rhythm, distant heart sounds
   Lungs: decreased bibasilar breath sounds, coarse ventilated breaths
   Abd: morbidly obese, soft, hypoactive BS, grimaces w palpation of abd,
   esp RUQ but cannot accurately assess pain
   ext: chronic venous stasis changes, well-perfused 2+ DP,PT pulses B/L
   Neuro: intubated, sedated
   Labs / Radiology
   204 K/uL
   8.8 g/dL
   72 mg/dL
   3.4 mg/dL
   19 mEq/L
   3.4 mEq/L
   53 mg/dL
   106 mEq/L
   136 mEq/L
   27.3 %
   8.8 K/uL
        [image002.jpg]
                            [**2115-12-10**]  03:00 AM
                            [**2115-12-10**]  03:41 PM
                            [**2115-12-10**]  05:14 PM
                            [**2115-12-10**]  05:47 PM
                            [**2115-12-10**]  06:20 PM
                            [**2115-12-11**]  01:04 AM
                            [**2115-12-11**]  04:20 AM
   WBC
   13.3
   10.6
   8.8
   Hct
   34.2
   27.0
   27.3
   Plt
   243
   213
   204
   Cr
   2.4
   3.1
   3.4
   TropT
   <0.01
   <0.01
   TCO2
   22
   22
   22
   20
   Glucose
   182
   100
   72
   Other labs: PT / PTT / INR:14.3/23.5/1.2, CK / CKMB /
   Troponin-T:176/4/<0.01, ALT / AST:69/57, Alk Phos / T Bili:310/3.0,
   Amylase / Lipase:46/40, Differential-Neuts:79.9 %, Lymph:14.4 %,
   Mono:4.3 %, Eos:1.2 %, Lactic Acid:1.1 mmol/L, LDH:183 IU/L, Ca++:7.1
   mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   65 year-old morbidly obese gentleman w/ DM2 and history of
   cholecystitis admitted for cholangitis, s/p ERCP w/ CBD stent
   placement, extraction of CBD stones and sphincterotomy, currently
   sedated, intubated and on pressors.
   1. HYPOTENSION/ SEPSIS- hypotension is likely due to sepsis as
   pressures not responding to fluid boluses. CVP goal is [**8-28**]; however,
   CVP measurements have been unreliable in this patient. Surgery wants to
   run maintenance IVF LR @150cc/hr for 2L. Would prefer to give fluid
   boluses and wean off levophed but will follow surgery's management.
   Likely hypotensive from sepsis from known infection- due to
   cholangitis. not febrile on admission, but had RUQ pain and T bili 4.4
   (jaundice). Also has hypotension and renal failure, but unable to
   assess mental status so could be Charcot's triad +/- [**Last Name (un) 6321**] pentad.
   Patient is s/p ERCP w/ sphincterotomy and extraction of gallstones and
   purulent material.
   -- continue antibiotic mgt Zosyn which will cover GNRs from intestinal
   flora translocation and anaerobes
   -- continue vancomycin for known GPC
s in clusters-> await speciation
   as if VRE will need linezolid
   -- fluid boluses, wean off pressors
   -- need TEE when no longer bacteremic to r/o endocarditis as blood cx
   are growing GPCs in clusters (likely staph)
   -- f/u surveillance BCx daily
   -- send UCx, U/A, Ulytes, BCx
   2. RESPIRATORY DISTRESS- Respiratory distress due to body habitus- has
   short inspiratory phase and prolonged expiration with massive rebound
   of his pannus which could cause ventilator to deliver additional
   breaths. Other considerations could include pneumonia, atelectasis
   ARDS, volume overload states; however, primary pulmonary process is
   less likely given known cholangitis/ bacteremia. CXR does not show
   consolidative process or b/l fluffy infiltrates and most recent PaO2/
   FiO2 ratio= 130/0.5-> 260 (<200 for ARDS) Does meet criteria for [**Doctor Last Name 76**]
   though as <300.
   -- keep intubated on current settings, try to wean FiO2 to 40% while
   following serial ABGs
   -- keep sedation on current settings
   --need CXR in AM to confirm placement ETT and NGT (CXR post-tubation
   revealed ETT 2.8cm above carina, NGT not well visualized, wouldn't use
   it yet). He was a difficult intubation and anesthesia's initial attempt
   resulted in R mainstem bronchus intubation, so low threshold for
   re-imaging if acutely worsens on vent settings
   -- pt did not tolerate trial of PS 5/5, would keep current vent
   settings the same and possibly try to wean to PS 5/5 later today, need
   to treat underlying acute lung injury for successful extubation
   3. OLIGURIA- poor urine output could be [**2-18**] poor renal perfusion from
   hypotension leading to ATN or due to volume depletion.  Patient
s urine
   output seems to be tapering off, and is no longer responsive to fluid
   boluses, which could mark the progression into ATN.
   -- will check urine lytes and Eo's, urine osms
   -- if ATN, unlikely to respond to fluid boluses
   -- will trend BUN/Cr
   ICU Care
   Nutrition: NPO
   Glycemic Control:  RISS
   Lines:
   Multi Lumen - [**2115-12-10**] 12:59 AM (R-IJ)
   20 Gauge - [**2115-12-10**] 01:47 AM
   18 Gauge - [**2115-12-10**] 01:47 AM
   Arterial Line - [**2115-12-10**] 10:30 AM
   Prophylaxis:
   DVT: venodynes, SC heparin
   Stress ulcer: famotidine
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: [**Hospital Unit Name 4**]

2115-12-11 10:15:00 Physician Attending Progress Note
Chief Complaint: Cholangitis
   Respiratory Failure--Acute
   Acute Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2115-12-10**] 10:30 AM
 ERCP - At [**2115-12-10**] 01:19 PM
 INVASIVE VENTILATION - START [**2115-12-10**] 04:00 PM
 BLOOD CULTURED - At [**2115-12-11**] 05:00 AM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2115-12-11**] 04:39 AM
   Vancomycin - [**2115-12-11**] 08:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2115-12-10**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2115-12-11**] 05:35 AM
   Famotidine (Pepcid) - [**2115-12-11**] 07:30 AM
   Morphine Sulfate - [**2115-12-11**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Nutritional Support: NPO
   Flowsheet Data as of  [**2115-12-11**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 85 (74 - 88) bpm
   BP: 107/64(77) {85/50(61) - 137/77(97)} mmHg
   RR: 20 (15 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 161 kg (admission): 153 kg
   CVP: 25 (19 - 26)mmHg
   Total In:
                                                                  9,100 mL
                                                                  3,753 mL
   PO:
   TF:
   IVF:
                                                                  8,350 mL
                                                                  3,753 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    625 mL
                                                                    222 mL
   Urine:
                                                                    625 mL
                                                                    222 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,475 mL
                                                                  3,531 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (550 - 600) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 39 cmH2O
   Plateau: 28 cmH2O
   Compliance: 34.9 cmH2O/mL
   SpO2: 95%
   ABG: 7.38/32/85.[**Numeric Identifier 299**]/19/-4
   Ve: 11.7 L/min
   PaO2 / FiO2: 213
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   204 K/uL
   72 mg/dL
   3.4 mg/dL
   19 mEq/L
   3.4 mEq/L
   53 mg/dL
   106 mEq/L
   136 mEq/L
   27.3 %
   8.8 K/uL
        [image002.jpg]
                            [**2115-12-10**]  03:00 AM
                            [**2115-12-10**]  03:41 PM
                            [**2115-12-10**]  05:14 PM
                            [**2115-12-10**]  05:47 PM
                            [**2115-12-10**]  06:20 PM
                            [**2115-12-11**]  01:04 AM
                            [**2115-12-11**]  04:20 AM
   WBC
   13.3
   10.6
   8.8
   Hct
   34.2
   27.0
   27.3
   Plt
   243
   213
   204
   Cr
   2.4
   3.1
   3.4
   TropT
   <0.01
   <0.01
   TCO2
   22
   22
   22
   20
   Glucose
   182
   100
   72
   Other labs: PT / PTT / INR:14.3/23.5/1.2, CK / CKMB /
   Troponin-T:176/4/<0.01, ALT / AST:69/57, Alk Phos / T Bili:310/3.0,
   Amylase / Lipase:46/40, Differential-Neuts:79.9 %, Lymph:14.4 %,
   Mono:4.3 %, Eos:1.2 %, Lactic Acid:1.1 mmol/L, LDH:183 IU/L, Ca++:7.1
   mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR-ETT beyond thoracic inlet, CVL in region of RA, mild
   improvement in pulmonary edema.
   Microbiology: Blood Cultures-
   GPC's noted on initial set of blood cultures but none positive since
   that time.
   Assessment and Plan
   65 yo male admitted with cholangitis and now with sepsis and
   respiratory failure.  He did have ERCP resulting in drainage of
   obstruction and stent placement and now is in with evidence of
   significant sepsis secondary to the cholangitis seen.  Across the past
   12 hours with adequate volume support patient has been able to wean off
   of pressors.  The concerning issue is that
   1)SEPSIS--Secondary to cholangitis, improved to have pressors off at
   this time.  This may well be related to improved volume suppport,
   adequate antibiotics and decompression of biliary tree.  Will
   -Maintain even/positive fluid balance across today
   -Will continue with Vanco/Zosyn
   -Will follow up cultures across time and expect resolution
   2)Respiratory Failure-Acute-Patient with increased respiratory effort,
   patient with ongoing infection and re-intubated.  He now has had
   requirement for ongoing ventilatory support in the setting of
   persistent infection.
   -This appears to be respiratory failure that is persistent in the
   setting of ongoing infection and significant volume support
   -Return to A/C with PEEP=8 and continue to support across time
   3)Acute Renal Failure-
   This is likey a combination of pre-renal insult as well as ATN.
   He has now moved to anuria
   Will check renal ultrasound
   -Will evaluate urine for casts to better define source of failure and
   expectation for improvement over time
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-12-10**] 12:59 AM
   20 Gauge - [**2115-12-10**] 01:47 AM
   18 Gauge - [**2115-12-10**] 01:47 AM
   Arterial Line - [**2115-12-10**] 10:30 AM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2115-12-12 07:08:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 4**] Resident Progress Note
   Chief Complaint: 65 year-old morbidly obese gentleman w/ DM2 and
   history of cholecystitis admitted for cholangitis, s/p ERCP w/ CBD
   stent placement, extraction of CBD stones and sphincterotomy, currently
   sedated and intubated.
   24 Hour Events:
   -ID: Continue Vanc for now (despite prelim cultures c/w MSSA), AM Vanc
   trough prior to next dose, TEE to eval for endocarditis and define Abx
   course (TTE is not informative due to body habitus), 2 additional Blood
   Cx tomorrow
   -Renal: Muddy brown casts c/w ATN, no current indication for HD, but
   will trend Cr, may need HD in the future.  Continue to follow.
   -No Blood Cx at OSH
   -s/p Placement of Esophageal ballon, PEEP increased from 8 to 15, Tv
   decreased to 500 from 600  (8cc/kg)
   -Hypoglycemic to low 60s in PM, gor [**1-18**] amp D50
   -Renal U/S showed no e/o hydronephrosis.  Normal resistive indices.
   -PM ABG 7.39/33/99/21/-3, PM Lytes stable
   -Fena 0.3, so may be a pre-renal component, got 2L of LR in PM
   -Hct 28.0 at 10 pm, stable.
   -PEEP lowered from 15 to 12, tolerating PS, pending ABG
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2115-12-11**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2115-12-12**] 03:03 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2115-12-11**] 07:30 AM
   Dextrose 50% - [**2115-12-11**] 06:00 PM
   Morphine Sulfate - [**2115-12-11**] 11:07 PM
   Heparin Sodium (Prophylaxis) - [**2115-12-12**] 05:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-12-12**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.4
   HR: 72 (67 - 86) bpm
   BP: 97/50(65) {88/50(63) - 128/68(87)} mmHg
   RR: 20 (16 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119.6 kg (admission): 153 kg
    CVP: 17 (17 - 26)mmHg
   Total In:
                                                                  7,361 mL
                                                                    241 mL
   PO:
   TF:
   IVF:
                                                                  7,336 mL
                                                                    241 mL
   Blood products:
   Total out:
                                                                  1,207 mL
                                                                    475 mL
   Urine:
                                                                  1,207 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,154 mL
                                                                   -234 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 600) mL
   Vt (Spontaneous): 500 (0 - 500) mL
   PS : 8 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 30 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 95%
   ABG: 7.36/40/86.[**Numeric Identifier 253**]/20/-2 at 5am
   Ve: 8 L/min
   PaO2 / FiO2: 218
   Physical Examination
   GEN: morbidly obese gentleman, intubated, sedated but opening his eyes
   to voice
   HEENT: no scleral icterus or chemiosis
   CV: regular rate and rhythm, distant heart sounds
   Lungs: decreased bibasilar breath sounds, coarse ventilated breaths
   Abd: morbidly obese, soft, hypoactive BS, grimaces w palpation of abd,
   esp RUQ but cannot accurately assess pain
   ext: chronic venous stasis changes, well-perfused 2+ DP,PT pulses B/L
   Neuro: intubated, sedated
   Labs / Radiology
   223 K/uL
   8.7 g/dL
   68 mg/dL
   3.2 mg/dL
   20 mEq/L
   3.4 mEq/L
   56 mg/dL
   107 mEq/L
   139 mEq/L
   26.8 %
   8.9 K/uL
        [image002.jpg]
                            [**2115-12-10**]  06:20 PM
                            [**2115-12-11**]  01:04 AM
                            [**2115-12-11**]  04:20 AM
                            [**2115-12-11**]  03:01 PM
                            [**2115-12-11**]  03:14 PM
                            [**2115-12-11**]  05:18 PM
                            [**2115-12-11**]  10:04 PM
                            [**2115-12-12**]  02:51 AM
                            [**2115-12-12**]  05:01 AM
                            [**2115-12-12**]  05:52 AM
   WBC
   8.8
   8.9
   Hct
   27.3
   28.0
   26.8
   Plt
   204
   223
   Cr
   3.4
   3.2
   3.2
   TCO2
   22
   20
   21
   21
   22
   24
   Glucose
   72
   62
   68
   Other labs: PT / PTT / INR:14.3/23.5/1.2, CK / CKMB /
   Troponin-T:176/4/<0.01, ALT / AST:69/57, Alk Phos / T Bili:310/3.0,
   Amylase / Lipase:46/40, Differential-Neuts:79.9 %, Lymph:14.4 %,
   Mono:4.3 %, Eos:1.2 %, Lactic Acid:0.7 mmol/L, LDH:183 IU/L, Ca++:7.3
   mg/dL, Mg++:2.3 mg/dL, PO4:4.6 mg/dL
   Vanc trough 16.5
   Blood cx [**12-11**] and [**12-12**] pending
   Blood cx [**12-10**] growing coag + S aureus
   CXR: Right IJ looks to be in right atrium per my read
   Assessment and Plan
   65 year-old morbidly obese gentleman w/ DM2 and history of
   cholecystitis admitted for cholangitis, s/p ERCP w/ CBD stent
   placement, extraction of CBD stones and sphincterotomy, currently
   intubated and sedated.
   1. HYPOTENSION/ SEPSIS- Hypotension now resolving with current
   treatments, CVP
s have been 17-26, although have been unreliable in the
   past in this patient.  Gave 3L LR yesterday to maitain BP and urine
   output and have weaned pressors.  Likely he was hypotensive from sepsis
   from known infection- due to cholangitis. not febrile on admission, but
   had RUQ pain and T bili 4.4 (jaundice). Also has renal failure, but
   unable to assess mental status so could be Charcot's triad +/-
   [**Last Name (un) 6321**] pentad. Patient is s/p ERCP w/ sphincterotomy and extraction
   of gallstones and purulent material.
   -- continue antibiotic mgt Zosyn which will cover GNRs from intestinal
   flora translocation and anaerobes, although no pathogen has been
   identified
   -- continue vancomycin for now because GPC
s in clusters, but with
   final susceptibilities will change to nafcillin if MSSA
   -- fluid boluses as needed
   -- TEE today to r/o endocarditis as blood cx are growing likely MSSA
   -- f/u surveillance BCx daily
   -- if additional positive blood cultures, consider d/c of right IJ and
   will culture tip
   2. RESPIRATORY DISTRESS- Respiratory distress due to body habitus- has
   short inspiratory phase and prolonged expiration with massive rebound
   of his pannus which could cause ventilator to deliver additional
   breaths. Other considerations could include pneumonia, atelectasis
   ARDS, volume overload states; however, primary pulmonary process is
   less likely given known cholangitis/ bacteremia. CXR does not show
   consolidative process or b/l fluffy infiltrates and most recent PaO2/
   FiO2 ratio= 130/0.5-> 260 (<200 for ARDS) Does meet criteria for [**Doctor Last Name 76**]
   though as <300.
   -- keep intubated on current settings, try to wean FiO2 to 40% while
   following serial ABGs
   -- keep sedation on current settings
   --need CXR in AM to confirm placement ETT and NGT (CXR post-tubation
   revealed ETT 2.8cm above carina, NGT not well visualized, wouldn't use
   it yet). He was a difficult intubation and anesthesia's initial attempt
   resulted in R mainstem bronchus intubation, so low threshold for
   re-imaging if acutely worsens on vent settings
   -- pt did not tolerate trial of PS 5/5, would keep current vent
   settings the same and possibly try to wean to PS 5/5 later today, need
   to treat underlying acute lung injury for successful extubation
   3. OLIGURIA- poor urine output could be [**2-18**] poor renal perfusion from
   hypotension leading to ATN or due to volume depletion.  Patient
s urine
   output seems to be tapering off, and is no longer responsive to fluid
   boluses, which could mark the progression into ATN.
   -- will check urine lytes and Eo's, urine osms
   -- if ATN, unlikely to respond to fluid boluses
   -- will trend BUN/Cr
   ICU Care
   Nutrition: NPO
   Glycemic Control:  RISS (62-93)
   Lines:
   Multi Lumen - [**2115-12-10**] 12:59 AM (R-IJ)
   20 Gauge - [**2115-12-10**] 01:47 AM
   18 Gauge - [**2115-12-10**] 01:47 AM
   Arterial Line - [**2115-12-10**] 10:30 AM
   Prophylaxis:
   DVT: venodynes, SC heparin
   Stress ulcer: famotidine
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: [**Hospital Unit Name 4**]

2115-12-12 12:03:00 Physician Attending Progress Note
CRITICAL CARE ATTENDING ADDENDUM
   Chief Complaint: resp failure, pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Seen by multiple consultants
   Transpulm pressure end-exp: -5.7 @ PEEP 16
   Transpulm pressure end-insp: +3.2
 TRANSTHORACIC ECHO - At [**2115-12-11**] 10:00 AM
 ULTRASOUND - At [**2115-12-11**] 11:05 AM
   abd
 ESOPHOGEAL BALLOON - At [**2115-12-11**] 12:00 PM
 NASAL SWAB - At [**2115-12-11**] 03:00 PM
   MRSA
 BLOOD CULTURED - At [**2115-12-12**] 03:30 AM
 BLOOD CULTURED - At [**2115-12-12**] 05:42 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2115-12-12**] 03:03 AM
   Vancomycin - [**2115-12-12**] 08:15 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2115-12-11**] 06:00 PM
   Morphine Sulfate - [**2115-12-11**] 11:07 PM
   Heparin Sodium (Prophylaxis) - [**2115-12-12**] 05:08 AM
   Famotidine (Pepcid) - [**2115-12-12**] 07:45 AM
   Propofol - [**2115-12-12**] 08:17 AM
   Other medications:
   vanco, CHG, SQI, zosyn, H2B, propofol, SQH
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-12-12**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.5
   HR: 75 (67 - 88) bpm
   BP: 120/66(84) {97/50(65) - 151/78(104)} mmHg
   RR: 20 (16 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119.6 kg (admission): 153 kg
   CVP: 17 (15 - 26)mmHg
   Total In:
                                                                  7,361 mL
                                                                    708 mL
   PO:
   TF:
   IVF:
                                                                  7,336 mL
                                                                    708 mL
   Blood products:
   Total out:
                                                                  1,207 mL
                                                                  1,005 mL
   Urine:
                                                                  1,207 mL
                                                                  1,005 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,154 mL
                                                                   -297 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 600) mL
   Vt (Spontaneous): 500 (0 - 500) mL
   PS : 8 cmH2O
   RR (Set): 20
   RR (Spontaneous): 23
   PEEP: 20 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 30 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 97%
   ABG: 7.39/34/121/20/-3
   Ve: 12.8 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), distant heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Sedated,
   Tone: Normal
   Labs / Radiology
   8.7 g/dL
   223 K/uL
   68 mg/dL
   3.2 mg/dL
   20 mEq/L
   3.4 mEq/L
   56 mg/dL
   107 mEq/L
   139 mEq/L
   26.8 %
   8.9 K/uL
        [image002.jpg]
                            [**2115-12-11**]  01:04 AM
                            [**2115-12-11**]  04:20 AM
                            [**2115-12-11**]  03:01 PM
                            [**2115-12-11**]  03:14 PM
                            [**2115-12-11**]  05:18 PM
                            [**2115-12-11**]  10:04 PM
                            [**2115-12-12**]  02:51 AM
                            [**2115-12-12**]  05:01 AM
                            [**2115-12-12**]  05:52 AM
                            [**2115-12-12**]  10:15 AM
   WBC
   8.8
   8.9
   Hct
   27.3
   28.0
   26.8
   Plt
   204
   223
   Cr
   3.4
   3.2
   3.2
   TCO2
   20
   21
   21
   22
   24
   21
   Glucose
   72
   62
   68
   Other labs: PT / PTT / INR:14.3/23.5/1.2, CK / CKMB /
   Troponin-T:176/4/<0.01, ALT / AST:58/55, Alk Phos / T Bili:304/2.1,
   Amylase / Lipase:43/50, Differential-Neuts:79.9 %, Lymph:14.4 %,
   Mono:4.3 %, Eos:1.2 %, Lactic Acid:0.7 mmol/L, LDH:183 IU/L, Ca++:7.3
   mg/dL, Mg++:2.3 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   65-year-old man admitted with cholangitis (now s/p ERCP) now with
          Respiratory failure
          Acute renal failure
          Septic shock (now resolved)
          MRSA bacteremia
   For his respiratory failure
          esophageal-pressure guided PEEP settings, suggesting
   substantive extrathoracic component
          attempt to get him more upright and assess respiratory
   status
          review intubation record; might be a reasonable candidate to
   extubate to PAP in next few days, or to consider tracheostomy if
   difficult airway.
          Check mini-Bal and sputum cx given secretions.  On
   reasonable rx at present for VAP, though if spikes could add addl GNR
   coverage or d/w ID.
   Acute renal failure
   Check bladder pressure
   Urine output clearing improving, and creatinine plateaued.  Probably
   entering post-ATN diuretic phase
   [image004.jpg]
   MRSA bacteremia
   Since line placed while he had high-grade bacteremia with Staph, will
   resite.
   TEE in next few days
   Communication and HCP
   [**Name (NI) **] is not able to participate in decisions, and we have no
   identified proxy at this point.  Will attempt to ask his PCP if anyone
   has been identified in past, and will consult social work for help.  In
   the meantime, I believe that the interventions above (antibiotics,
   mechanical ventilation, and resiting line) have benefits that far
   outweigh risks at the present time and
 in the absence of known
   patient wishes
 we will proceed with this medically indicated care.
   ICU Care
   Nutrition: begin TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2115-12-10**] 12:59 AM
   Arterial Line - [**2115-12-10**] 10:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill
   ------ Protected Section ------
   Addendum: problem above should read
[**Name (NI) 1684**] bacteremia,
 not
MRSA
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 560**], MD
   on:[**2115-12-12**] 04:35 PM ------

2115-12-13 10:44:00 Physician Attending Progress Note
CRITICAL CARE ATTENDING
   Chief Complaint: respiratory failure, pancreatitis, acute renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BAL FLUID CULTURE - At [**2115-12-12**] 03:03 PM
 ARTERIAL LINE - STOP [**2115-12-12**] 05:00 PM
 MULTI LUMEN - START [**2115-12-12**] 05:16 PM
 ARTERIAL LINE - START [**2115-12-12**] 07:32 PM
 MULTI LUMEN - STOP [**2115-12-12**] 08:27 PM
 BLOOD CULTURED - At [**2115-12-13**] 03:40 AM
   CVL and art line resited.  UOP continued to be good.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2115-12-12**] 03:03 AM
   Piperacillin - [**2115-12-13**] 03:46 AM
   Vancomycin - [**2115-12-13**] 08:01 AM
   Infusions:
   Other ICU medications:
   Propofol - [**2115-12-12**] 03:25 PM
   Morphine Sulfate - [**2115-12-13**] 02:15 AM
   Heparin Sodium (Prophylaxis) - [**2115-12-13**] 05:15 AM
   Other medications:
   sqi, sqh, chg, vanco q 24, zosyn, H2B, propofol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-12-13**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36
C (96.8
   HR: 75 (60 - 85) bpm
   BP: 132/62(85) {96/53(69) - 163/84(116)} mmHg
   RR: 20 (11 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 168.4 kg (admission): 153 kg
   Height: 57 Inch
   CVP: 15 (13 - 27)mmHg
   Bladder pressure: 18 (18 - 20) mmHg
   Total In:
                                                                  1,273 mL
                                                                    650 mL
   PO:
   TF:
   IVF:
                                                                  1,273 mL
                                                                    650 mL
   Blood products:
   Total out:
                                                                  1,745 mL
                                                                  1,365 mL
   Urine:
                                                                  1,745 mL
                                                                  1,365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -472 mL
                                                                   -715 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 31 cmH2O
   SpO2: 97%
   ABG: 7.35/34/116/20/-5
   Ve: 9.5 L/min
   PaO2 / FiO2: 232
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal, tracks
   Labs / Radiology
   9.1 g/dL
   267 K/uL
   93 mg/dL
   2.6 mg/dL
   20 mEq/L
   3.9 mEq/L
   54 mg/dL
   110 mEq/L
   143 mEq/L
   28.0 %
   9.1 K/uL
        [image002.jpg]
                            [**2115-12-11**]  03:01 PM
                            [**2115-12-11**]  03:14 PM
                            [**2115-12-11**]  05:18 PM
                            [**2115-12-11**]  10:04 PM
                            [**2115-12-12**]  02:51 AM
                            [**2115-12-12**]  05:01 AM
                            [**2115-12-12**]  05:52 AM
                            [**2115-12-12**]  10:15 AM
                            [**2115-12-13**]  03:35 AM
                            [**2115-12-13**]  09:07 AM
   WBC
   8.9
   9.1
   Hct
   28.0
   26.8
   28.0
   Plt
   223
   267
   Cr
   3.2
   3.2
   2.6
   TCO2
   21
   21
   22
   24
   21
   20
   Glucose
   62
   68
   93
   Other labs: PT / PTT / INR:13.4/25.4/1.1, CK / CKMB /
   Troponin-T:176/4/<0.01, ALT / AST:56/50, Alk Phos / T Bili:291/1.6,
   Amylase / Lipase:49/40, Differential-Neuts:80.9 %, Band:0.0 %,
   Lymph:13.5 %, Mono:3.0 %, Eos:2.1 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.2 g/dL, LDH:163 IU/L, Ca++:7.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.6
   mg/dL
   Imaging: CXR with basilar opacities
   Assessment and Plan
   65-year-old man admitted with cholangitis (now s/p ERCP) now with
          Respiratory failure
          Acute renal failure
          Septic shock (now resolved)
          MRSA bacteremia
   For his respiratory failure
          esophageal-pressure guided PEEP settings, suggesting
   substantive extrathoracic component
          attempt to get him more upright and assess respiratory
   status
          review intubation record; might be a reasonable candidate to
   extubate to PAP in next few days, or to consider tracheostomy if
   difficult airway.
          Check mini-Bal and sputum cx given secretions.  On
   reasonable rx at present for VAP, though if spikes could add addl GNR
   coverage or d/w ID.
   Acute renal failure
   Check bladder pressure
   Urine output clearing improving, and creatinine plateaued.  Probably
   entering post-ATN diuretic phase
   [image004.jpg]
   MRSA bacteremia
   Since line placed while he had high-grade bacteremia with Staph, will
   resite.
   TEE in next few days
   Communication and HCP
   [**Name (NI) **] is not able to participate in decisions, and we have no
   identified proxy at this point.  Will attempt to ask his PCP if anyone
   has been identified in past, and will consult social work for help.  In
   the meantime, I believe that the interventions above (antibiotics,
   mechanical ventilation, and resiting line) have benefits that far
   outweigh risks at the present time and
 in the absence of known
   patient wishes
 we will proceed with this medically indicated care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-12-12**] 05:16 PM
   Arterial Line - [**2115-12-12**] 07:32 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2115-12-13 12:26:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 9924**] PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
 BAL FLUID CULTURE - At [**2115-12-12**] 03:03 PM
 ARTERIAL LINE - STOP [**2115-12-12**] 05:00 PM
 MULTI LUMEN - START [**2115-12-12**] 05:16 PM
 ARTERIAL LINE - START [**2115-12-12**] 07:32 PM
 MULTI LUMEN - STOP [**2115-12-12**] 08:27 PM
 BLOOD CULTURED - At [**2115-12-13**] 03:40 AM
   -apneic on PS, changed back to AC, need to change RR, settings to
   increase CO2
   -D/C'd Zosyn, changed Vanc to nafcillin as per ID recs (MSSA)
   -nutrition c/s for TF, Bladder pressures likely high d/t pannus
   pressing on it
   - SW patient's APN: [**First Name5 (NamePattern1) 10192**] [**Last Name (NamePattern1) 10193**] [**Telephone/Fax (1) 10194**] at Elder Service Plan
   of [**Location (un) **], there is no next of [**Doctor First Name 23**].  The patient moved from [**First Name11 (Name Pattern1) 2497**]
   [**Initial (NamePattern1) **] [**Last Name (NamePattern1) 6359**] years ago, and has no family/friends.
   Allergies: [**Name2 (NI) 3342**]
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2115-12-12**] 03:03 AM
   Piperacillin - [**2115-12-13**] 03:46 AM
   Vancomycin - [**2115-12-13**] 08:01 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2115-12-12**] 03:25 PM
   Morphine Sulfate - [**2115-12-13**] 02:15 AM
   Heparin Sodium (Prophylaxis) - [**2115-12-13**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-12-13**] 12:19 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36
C (96.8
   HR: 75 (60 - 85) bpm
   BP: 159/81(111) {96/53(69) - 163/84(116)} mmHg
   RR: 18 (11 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 168.4 kg (admission): 153 kg
   Height: 57 Inch
    CVP: 20 (13 - 27)mmHg
   Bladder pressure: 18 (18 - 20) mmHg
   Total In:
                                                                  1,273 mL
                                                                    797 mL
   PO:
   TF:
   IVF:
                                                                  1,273 mL
                                                                    797 mL
   Blood products:
   Total out:
                                                                  1,745 mL
                                                                  1,675 mL
   Urine:
                                                                  1,745 mL
                                                                  1,675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -472 mL
                                                                   -878 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 31 cmH2O
   SpO2: 99%
   ABG: 7.35/34/116/20/-5
   Ve: 7.6 L/min
   PaO2 / FiO2: 232
   Physical Examination
   GEN: morbidly obese gentleman, intubated, sedated but opening his eyes
   to voice, answering questions
   HEENT: no scleral icterus or chemiosis
   CV: regular rate and rhythm, distant heart sounds
   Lungs: decreased bibasilar breath sounds, coarse ventilated breaths
   Abd: morbidly obese, soft, hypoactive BS, grimaces w palpation of abd,
   esp RUQ but cannot accurately assess pain
   ext: chronic venous stasis changes, well-perfused 2+ DP,PT pulses B/L
   Neuro: intubated, sedated
   Labs / Radiology
   267 K/uL
   9.1 g/dL
   93 mg/dL
   2.6 mg/dL
   20 mEq/L
   3.9 mEq/L
   54 mg/dL
   110 mEq/L
   143 mEq/L
   28.0 %
   9.1 K/uL
        [image002.jpg]
                            [**2115-12-11**]  03:01 PM
                            [**2115-12-11**]  03:14 PM
                            [**2115-12-11**]  05:18 PM
                            [**2115-12-11**]  10:04 PM
                            [**2115-12-12**]  02:51 AM
                            [**2115-12-12**]  05:01 AM
                            [**2115-12-12**]  05:52 AM
                            [**2115-12-12**]  10:15 AM
                            [**2115-12-13**]  03:35 AM
                            [**2115-12-13**]  09:07 AM
   WBC
   8.9
   9.1
   Hct
   28.0
   26.8
   28.0
   Plt
   223
   267
   Cr
   3.2
   3.2
   2.6
   TCO2
   21
   21
   22
   24
   21
   20
   Glucose
   62
   68
   93
   Other labs: PT / PTT / INR:13.4/25.4/1.1, CK / CKMB /
   Troponin-T:176/4/<0.01, ALT / AST:56/50, Alk Phos / T Bili:291/1.6,
   Amylase / Lipase:49/40, Differential-Neuts:80.9 %, Band:0.0 %,
   Lymph:13.5 %, Mono:3.0 %, Eos:2.1 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.2 g/dL, LDH:163 IU/L, Ca++:7.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.6
   mg/dL
   Assessment and Plan
   65 year-old morbidly obese gentleman w/ DM2 and history of
   cholecystitis admitted for cholangitis, s/p ERCP w/ CBD stent
   placement, extraction of CBD stones and sphincterotomy, currently
   intubated and sedated.
   1. HYPOTENSION/ SEPSIS- Hypotension now resolved, weaned off all
   pressors.  CVP
s have been 17-26, although have been unreliable in the
   past in this patient.  Gave 3L LR yesterday to maintain BP and urine
   output and have weaned pressors.  Likely he was hypotensive from sepsis
   from known infection from cholangitis. Patient is s/p ERCP w/
   sphincterotomy and extraction of gallstones and purulent material.
   -- d/c Zosyn
   -- d/c Vancomycin and start Nafcillin 2g q4h as per ID recs
   -- fluid boluses as needed, urine output has been improving
   -- TEE today to r/o endocarditis as blood cx are growing MSSA
   -- f/u surveillance BCx daily
   2. RESPIRATORY DISTRESS- Respiratory distress due to body habitus- has
   short inspiratory phase and prolonged expiration with massive rebound
   of his pannus which could cause ventilator to deliver additional
   breaths. Other considerations could include pneumonia, atelectasis
   ARDS, volume overload states; however, primary pulmonary process is
   less likely given known cholangitis/ bacteremia.
   -- keep intubated on current settings, did not tolerate PS (became
   apneic)
   -- will change RR as PaCO2 probably higher at baseline
   -- serial ABGs
   -- keep sedation on current settings, have been increased slightly this
   am due to patient discomfort
   --f/u mini-bal cx
   3. OLIGURIA- Urine output has picked up, likely was a combination of
   ATN and prerenal etiologies.
   -- appreciate renal recs
   -- Will hold off on further IVF for now, and bolus for low urine output
   -- will trend BUN/Cr
   -- will give 150mEq NaHCO3
   4. CHOLANGITIS
 ERCP following, recommended repeat in 6 weeks.
   ICU Care
   Nutrition: NPO for TEE, then start TFs
   Glycemic Control:  RISS
   Lines:
   Multi Lumen - [**2115-12-12**] 05:16 PM
   Arterial Line - [**2115-12-12**] 07:32 PM
   20 guage, 18 guage
   Prophylaxis:
   DVT: venodynes, sc heparin
   Stress ulcer: famotidine
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: [**Hospital Unit Name 4**]

2115-12-14 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**12-12**]
   -checking LFTs and amylase/lipase daily as pt is s/p ERCP
   - switched back to AC yesterday morning
   - final sensitivites show 4/4 bottles + MSSA, ID wanted to continue
   vanc for now given positive nasal swab.  He's also on Zosyn which we
   didn't want to stop which should cover MSSA
   - Got new left IJ line! FU CXR w/o PTX
   - TEE not done today, will hopefully happen tomorrow
   - Renal attending says no HD today, likely ATN, wanted maintenance
   fluids, we decided to bolus as needed
   - Bladder pressure was 20 (borderline high, maybe something going on in
   his belly), so didn't start tube feeds
   - Got mini-BAL
   - Also got new A line!
   - ERCP team said no new recs
   - UOP 50-100cc/hr so we didn't give extra fluids throughout the day
   PCP [**Last Name (NamePattern4) **]. [**First Name (STitle) **] [**Telephone/Fax (1) 10208**]
   [**Hospital 7568**] Hospital [**Telephone/Fax (1) 10209**]
   -------------------------------------------------
   [**12-13**]
   -apneic on PS, changed back to AC, need to change RR, settings to
   increase CO2. later in the PM, tried on pressure support again and was
   doing well with 16 PEEP
   -D/C'd Zosyn, changed Vanc to nafcillin as per ID recs (MSSA)
   -nutrition c/s for TF, Bladder pressures likely high d/t pannus
   pressing on it
   - SW patient's APN: [**First Name5 (NamePattern1) 10192**] [**Last Name (NamePattern1) 10193**] [**Telephone/Fax (1) 10194**] at Elder Service Plan
   of [**Location (un) **], there is no next of [**Doctor First Name 23**].  The patient moved from [**First Name11 (Name Pattern1) 2497**]
   [**Initial (NamePattern1) **] [**Last Name (NamePattern1) 6359**] years ago, and has no family here.  He is mobile at home in a
   wheelchair, but has poor baseline respiratory status.  He also does not
   take his insulin appropriately.
   -[**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 10210**] (social worker) [**Telephone/Fax (1) 10211**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2115-12-12**] 03:03 AM
   Vancomycin - [**2115-12-13**] 08:01 AM
   Piperacillin - [**2115-12-13**] 10:00 AM
   Nafcillin - [**2115-12-14**] 04:28 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2115-12-13**] 01:43 PM
   Heparin Sodium (Prophylaxis) - [**2115-12-14**] 04:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-12-14**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 82 (61 - 84) bpm
   BP: 134/62(87) {107/53(71) - 163/84(116)} mmHg
   RR: 17 (11 - 21) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 168.4 kg (admission): 153 kg
   Height: 57 Inch
    CVP: 11 (11 - 20)mmHg
   Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  2,904 mL
                                                                    872 mL
   PO:
   TF:
                                                                    301 mL
                                                                    280 mL
   IVF:
                                                                  2,603 mL
                                                                    592 mL
   Blood products:
   Total out:
                                                                  3,215 mL
                                                                    740 mL
   Urine:
                                                                  3,215 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -311 mL
                                                                    134 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 400 (400 - 500) mL
   Vt (Spontaneous): 429 (0 - 511) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 16
   PEEP: 16 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 31 cmH2O
   SpO2: 93%
   ABG: 7.40/40/86.[**Numeric Identifier 253**]/24/0
   Ve: 6.4 L/min
   PaO2 / FiO2: 218
   Physical Examination
   GEN: morbidly obese gentleman, intubated, sedated but opening his eyes
   to voice, answering questions
   HEENT: no scleral icterus or chemiosis
   CV: regular rate and rhythm, distant heart sounds
   Lungs: decreased bibasilar breath sounds, coarse ventilated breaths
   Abd: morbidly obese, soft, hypoactive BS, grimaces w palpation of abd,
   esp RUQ but cannot accurately assess pain
   ext: chronic venous stasis changes, well-perfused 2+ DP,PT pulses B/L
   Neuro: intubated, sedated
   Labs / Radiology
   301 K/uL
   9.2 g/dL
   211 mg/dL
   2.2 mg/dL
   24 mEq/L
   3.5 mEq/L
   48 mg/dL
   106 mEq/L
   139 mEq/L
   28.5 %
   7.7 K/uL
        [image002.jpg]
                            [**2115-12-12**]  05:01 AM
                            [**2115-12-12**]  05:52 AM
                            [**2115-12-12**]  10:15 AM
                            [**2115-12-13**]  03:35 AM
                            [**2115-12-13**]  09:07 AM
                            [**2115-12-13**]  02:29 PM
                            [**2115-12-13**]  02:42 PM
                            [**2115-12-13**]  04:14 PM
                            [**2115-12-13**]  10:14 PM
                            [**2115-12-14**]  04:40 AM
   WBC
   9.1
   7.7
   Hct
   28.0
   28.5
   Plt
   267
   301
   Cr
   2.6
   2.1
   2.2
   TCO2
   22
   24
   21
   20
   24
   24
   26
   Glucose
   93
   138
   130
   211
   Other labs: PT / PTT / INR:12.0/22.1/1.0, CK / CKMB /
   Troponin-T:176/4/<0.01, ALT / AST:42/31, Alk Phos / T Bili:309/1.9,
   Amylase / Lipase:28/34, Differential-Neuts:77.6 %, Band:0.0 %,
   Lymph:16.0 %, Mono:4.1 %, Eos:1.8 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.2 g/dL, LDH:159 IU/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   65 year-old morbidly obese gentleman w/ DM2 and history of
   cholecystitis admitted for cholangitis, s/p ERCP w/ CBD stent
   placement, extraction of CBD stones and sphincterotomy, currently
   intubated and sedated.
   1. HYPOTENSION/ SEPSIS- Hypotension now resolved, weaned off all
   pressors.  CVP
s have been 17-26, although have been unreliable in the
   past in this patient.  Gave 3L LR yesterday to maintain BP and urine
   output and have weaned pressors.  Likely he was hypotensive from sepsis
   from known infection from cholangitis. Patient is s/p ERCP w/
   sphincterotomy and extraction of gallstones and purulent material.
   -- d/c Zosyn
   -- d/c Vancomycin and start Nafcillin 2g q4h as per ID recs
   -- fluid boluses as needed, urine output has been improving
   -- TEE today to r/o endocarditis as blood cx are growing MSSA
   -- f/u surveillance BCx daily
   2. RESPIRATORY DISTRESS- Respiratory distress due to body habitus- has
   short inspiratory phase and prolonged expiration with massive rebound
   of his pannus which could cause ventilator to deliver additional
   breaths. Other considerations could include pneumonia, atelectasis
   ARDS, volume overload states; however, primary pulmonary process is
   less likely given known cholangitis/ bacteremia.
   -- keep intubated on current settings, did not tolerate PS (became
   apneic)
   -- will change RR as PaCO2 probably higher at baseline
   -- serial ABGs
   -- keep sedation on current settings, have been increased slightly this
   am due to patient discomfort
   --f/u mini-bal cx
   3. OLIGURIA- Urine output has picked up, likely was a combination of
   ATN and prerenal etiologies.
   -- appreciate renal recs
   -- Will hold off on further IVF for now, and bolus for low urine output
   -- will trend BUN/Cr
   -- will give 150mEq NaHCO3
   4. CHOLANGITIS
 ERCP following, recommended repeat in 6 weeks.
   ICU Care
   Nutrition: NPO for TEE, then start TFs
   Glycemic Control:  RISS
   Lines:
   Multi Lumen - [**2115-12-12**] 05:16 PM
   Arterial Line - [**2115-12-12**] 07:32 PM
   20 guage, 18 guage
   Prophylaxis:
   DVT: venodynes, sc heparin
   Stress ulcer: famotidine
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: [**Hospital Unit Name 4**]

2115-12-14 09:48:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2115-12-13**] 01:35 PM--no vegitation or
   masses seen
   -Nafcillin for treatment based upon culture results.
   -PSV well tolerated with elevated PEEP levels.
   -Baseline patient with cocaine use, poor functional status at home but
   no health care proxy.
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2115-12-12**] 03:03 AM
   Vancomycin - [**2115-12-13**] 08:01 AM
   Piperacillin - [**2115-12-13**] 10:00 AM
   Nafcillin - [**2115-12-14**] 08:51 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2115-12-13**] 01:43 PM
   Heparin Sodium (Prophylaxis) - [**2115-12-14**] 04:59 AM
   Famotidine (Pepcid) - [**2115-12-14**] 08:51 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-12-14**] 09:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.8
   HR: 80 (61 - 84) bpm
   BP: 144/67(95) {107/53(71) - 159/81(111)} mmHg
   RR: 18 (11 - 20) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 168.4 kg (admission): 153 kg
   Height: 57 Inch
   CVP: 10 (9 - 20)mmHg
   Total In:
                                                                  2,904 mL
                                                                  1,396 mL
   PO:
   TF:
                                                                    301 mL
                                                                    387 mL
   IVF:
                                                                  2,603 mL
                                                                    910 mL
   Blood products:
   Total out:
                                                                  3,215 mL
                                                                  1,065 mL
   Urine:
                                                                  3,215 mL
                                                                  1,065 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -311 mL
                                                                    331 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 455 (0 - 511) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 17
   PEEP: 16 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   SpO2: 94%
   ABG: 7.40/40/86.[**Numeric Identifier 253**]/24/0
   Ve: 9.5 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed, Poor responsiveness this morning with complex questions.
   Labs / Radiology
   9.2 g/dL
   301 K/uL
   211 mg/dL
   2.2 mg/dL
   24 mEq/L
   3.5 mEq/L
   48 mg/dL
   106 mEq/L
   139 mEq/L
   28.5 %
   7.7 K/uL
        [image002.jpg]
                            [**2115-12-12**]  05:01 AM
                            [**2115-12-12**]  05:52 AM
                            [**2115-12-12**]  10:15 AM
                            [**2115-12-13**]  03:35 AM
                            [**2115-12-13**]  09:07 AM
                            [**2115-12-13**]  02:29 PM
                            [**2115-12-13**]  02:42 PM
                            [**2115-12-13**]  04:14 PM
                            [**2115-12-13**]  10:14 PM
                            [**2115-12-14**]  04:40 AM
   WBC
   9.1
   7.7
   Hct
   28.0
   28.5
   Plt
   267
   301
   Cr
   2.6
   2.1
   2.2
   TCO2
   22
   24
   21
   20
   24
   24
   26
   Glucose
   93
   138
   130
   211
   Other labs: PT / PTT / INR:12.0/22.1/1.0, CK / CKMB /
   Troponin-T:176/4/<0.01, ALT / AST:42/31, Alk Phos / T Bili:309/1.9,
   Amylase / Lipase:28/34, Differential-Neuts:77.6 %, Band:0.0 %,
   Lymph:16.0 %, Mono:4.1 %, Eos:1.8 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.2 g/dL, LDH:159 IU/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   65 yo male with history of obesity now admitted with biliary
   sepsis--with MSSA on cultures.  Renal failure likely attributable to
   ATN based upon renal evaluation.  What is at issue is that patient
   maintains significant volume overload, severe hypoxemia with elevated
   PEEP requirements noted.  This is related primarily to patient baseline
   body habitus but additional fluid load is likely contributor in
   idfficulty with wean of FIO2 support.
   1)Respiratory Failure-Acute and Chronic-He has persistent and
   significant hypoxemia
with high PEEP requirements.  This is with
   PEEP=16. This is with sepsis improved on current treatment now with
   organism identified and treatment in place.  Patient has excellent
   response to verbal questions and appropriate responses.  We have modest
   volume overload and do have persistent elevated creatinine.
   -Will maintain in PSV support for now with PEEP
   -Will check RSBI for evaluation at this time
   -Will not go to SBT as we have concerns persisting in regards to volume
   status
   2)Sepsis--Likely biliary source-With MSSA seen on culture results and
   clear evidence of improvement
   -Nafcillin to continue
   -TEE completed.
   -Follow with surgery and ERCP rec
   3)Renal Failure-Mild improvement in urine flow but with persistent
   creatinine elevation
   -Follow urine output
   -Hold on pharmacologic diruesis for now
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2115-12-14**] 04:23 AM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2115-12-12**] 05:16 PM
   Arterial Line - [**2115-12-12**] 07:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Will need to clarify caregiver support and
   proxy status going forward.
   Code status: Full code
   Disposition :ICU
   Total time spent: 43

2115-12-15 06:56:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 4**] Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   - Given 20mg IV Lasix for diuresis goal 1-2 liters, good response up to
   350 cc/hr
   - Renal team saw patient and recommended repeat U/A, Urine sodium, and
   protein:creatinine ratio
   - No new surgery recs, surgery team signed off
   - Later given another 20mg IV Lasix as UOP down to 150 cc/hr
   - ID team recommended 2 weeks total of nafcillin (last day [**2115-12-24**])
   - Was on pressure support for about 12 hours at 10/16 40% FiO2, then
   switched back to AC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2115-12-13**] 08:01 AM
   Piperacillin - [**2115-12-13**] 10:00 AM
   Nafcillin - [**2115-12-15**] 03:54 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2115-12-14**] 08:51 AM
   Furosemide (Lasix) - [**2115-12-15**] 02:13 AM
   Heparin Sodium (Prophylaxis) - [**2115-12-15**] 06:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-12-15**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 81 (74 - 88) bpm
   BP: 163/68(106) {125/57(81) - 177/83(184)} mmHg
   RR: 23 (14 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 168.6 kg (admission): 153 kg
   Height: 57 Inch
    CVP: 10 (9 - 17)mmHg
   Total In:
                                                                  3,173 mL
                                                                    522 mL
   PO:
   TF:
                                                                    967 mL
   IVF:
                                                                  1,906 mL
                                                                    522 mL
   Blood products:
   Total out:
                                                                  3,790 mL
                                                                  2,040 mL
   Urine:
                                                                  3,790 mL
                                                                  2,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -617 mL
                                                                 -1,518 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 455) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 26 cmH2O
   SpO2: 95%
   ABG: 7.44/39/78.[**Numeric Identifier 7**]/26/1 ([**12-15**] @ 3am)
   Ve: 9.2 L/min
   PaO2 / FiO2: 158
   Physical Examination
   GEN: morbidly obese gentleman, intubated, sedated but opening his eyes
   to voice, not following commands.
   HEENT: no scleral icterus or chemiosis, Had a "bump" on his occiput
   that to me looks like lipoma.  No erythema, no discharge, no pain
   response, so will observe for now.
   CV: regular rate and rhythm, distant heart sounds
   Lungs: decreased bibasilar breath sounds, coarse ventilated breaths
   Abd: morbidly obese, soft, hypoactive BS, NT
   Ext: chronic venous stasis changes, well-perfused 2+ DP,PT pulses B/L
   Neuro: intubated, sedated
   Labs / Radiology
   321 K/uL
   9.3 g/dL
   164 mg/dL
   1.6 mg/dL
   26 mEq/L
   3.8 mEq/L
   37 mg/dL
   109 mEq/L
   143 mEq/L
   28.2 %
   7.4 K/uL
        [image002.jpg]
                            [**2115-12-12**]  10:15 AM
                            [**2115-12-13**]  03:35 AM
                            [**2115-12-13**]  09:07 AM
                            [**2115-12-13**]  02:29 PM
                            [**2115-12-13**]  02:42 PM
                            [**2115-12-13**]  04:14 PM
                            [**2115-12-13**]  10:14 PM
                            [**2115-12-14**]  04:40 AM
                            [**2115-12-15**]  01:51 AM
                            [**2115-12-15**]  02:55 AM
   WBC
   9.1
   7.7
   7.4
   Hct
   28.0
   28.5
   28.2
   Plt
   [**Telephone/Fax (3) 10232**]
   Cr
   2.6
   2.1
   2.2
   1.6
   TCO2
   21
   20
   24
   24
   26
   27
   Glucose
   93
   138
   130
   211
   164
   Other labs: PT / PTT / INR:12.1/22.1/1.0, CK / CKMB /
   Troponin-T:176/4/<0.01, ALT / AST:38/32, Alk Phos / T Bili:302/1.4,
   Amylase / Lipase:25/27, Differential-Neuts:77.6 %, Band:0.0 %,
   Lymph:16.0 %, Mono:4.1 %, Eos:1.8 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.4 g/dL, LDH:193 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.6
   mg/dL
   [**2115-12-14**]:
   Other Urine Chemistry:
   UreaN:580
   Creat:55
   Na:23
   TotProt:29
   Prot/Cr:0.5
   Osmolal:345
   Source: Catheter
   Color
   Yellow
   Appear
   Hazy
   SpecGr
   1.011
   pH
   5.5
   Urobil
   Neg
   Bili
   Neg
   Leuk
   Neg
   Bld
   Mod
   Nitr
   Neg
   Prot
   Tr
   Glu
   Neg
   Ket
   Neg
   RBC
   147
   WBC
   10
   Bact
   Few
   Yeast
   None
   Epi
   0
   Other Urine Counts
   Mucous: Rare
   [**2115-12-12**] MiniBAL:
GRAM STAIN (Final [**2115-12-12**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Final [**2115-12-14**]):
      Commensal Respiratory Flora Absent.
      YEAST.    ~4000/ML.
   LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
   Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
      [**2115-12-13**]):    NEGATIVE for Pneumocystis jirovecii (carinii)..
   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
[**2115-12-12**]:
   WOUND CULTURE (Preliminary):
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    >15 colonies.
Blood Cultures [**Date range (1) 10233**]: No growth to date
[**2115-12-13**]: TEE: Preliminary shows no massess/vegetations
   Assessment and Plan
   65 year-old morbidly obese gentleman w/ DM2 and history of
   cholecystitis admitted for cholangitis, s/p ERCP w/ CBD stent
   placement, extraction of CBD stones and sphincterotomy, currently
   intubated and sedated.
   1. RESPIRATORY DISTRESS- Respiratory distress due to body habitus- has
   short inspiratory phase and prolonged expiration with massive rebound
   of his pannus which could cause ventilator to deliver additional
   breaths.  Moreover, there was likely constribution from cholangitis/
   bacteremia, which is now improving.   Renal function improving and
   likely will be less of a barrier to extubation due to volume status.
   -- Continue on pressure support, discontinue sedation and wean PEEP as
   tolerate
   -- Diuresis goal of -1-2 liters today, have almost acheieved that goal
   today
   -- Monitor renal function, urine output
   -- Recheck lytes in the afternoon
   -- Will advance ETT by 3cm
   2. HYPOTENSION/ SEPSIS- Hypotension now resolved, weaned off all
   pressors.  Likely he was hypotensive from sepsis from known infection
   from cholangitis. Patient is s/p ERCP w/ sphincterotomy and extraction
   of gallstones and purulent material.
   -- continue Nafcillin 2g q4h as per ID recs (day 4, last day [**2115-12-24**])
   -- fluid boluses as needed, urine output has been improving
   -- f/u final TEE report
   -- f/u all outstanding cultures
   --daily surveillance cultures
   3. [**Last Name (un) **]  - Urine output has picked up, likely was a combination of ATN
   and prerenal etiologies.
   -- appreciate continued renal recs
   -- will trend BUN/Cr
   -- Check urine osms
   4. CHOLANGITIS
 ERCP following, recommended repeat in 6 weeks for
   stent pull
   -F/u ERCP and surgery recs
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:  RISS
   Lines: Multi Lumen - [**2115-12-12**] 05:16 PM
   Arterial Line - [**2115-12-12**] 07:32 PM
   20 guage, 18 guage
   Prophylaxis:
   DVT: venodynes, sc heparin
   Stress ulcer: famotidine
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: [**Hospital Unit Name 4**]

2115-12-15 12:24:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Cholangitis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
                          History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2115-12-13**] 08:01 AM
   Piperacillin - [**2115-12-13**] 10:00 AM
   Nafcillin - [**2115-12-15**] 07:55 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2115-12-15**] 02:13 AM
   Heparin Sodium (Prophylaxis) - [**2115-12-15**] 06:11 AM
   Famotidine (Pepcid) - [**2115-12-15**] 07:55 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-12-15**] 12:17 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98.1
   HR: 76 (74 - 88) bpm
   BP: 153/70(100) {132/60(86) - 177/83(184)} mmHg
   RR: 21 (14 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 168.6 kg (admission): 153 kg
   Height: 57 Inch
   CVP: 10 (10 - 17)mmHg
   Total In:
                                                                  3,173 mL
                                                                    975 mL
   PO:
   TF:
                                                                    967 mL
   IVF:
                                                                  1,906 mL
                                                                    975 mL
   Blood products:
   Total out:
                                                                  3,790 mL
                                                                  2,965 mL
   Urine:
                                                                  3,790 mL
                                                                  2,965 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -617 mL
                                                                 -1,990 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 349 (0 - 440) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 23
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 26 cmH2O
   SpO2: 96%
   ABG: 7.44/39/78.[**Numeric Identifier 7**]/26/1
   Ve: 8.5 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Distended, Obese
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   321 K/uL
   164 mg/dL
   1.6 mg/dL
   26 mEq/L
   3.8 mEq/L
   37 mg/dL
   109 mEq/L
   143 mEq/L
   28.2 %
   7.4 K/uL
        [image002.jpg]
                            [**2115-12-12**]  10:15 AM
                            [**2115-12-13**]  03:35 AM
                            [**2115-12-13**]  09:07 AM
                            [**2115-12-13**]  02:29 PM
                            [**2115-12-13**]  02:42 PM
                            [**2115-12-13**]  04:14 PM
                            [**2115-12-13**]  10:14 PM
                            [**2115-12-14**]  04:40 AM
                            [**2115-12-15**]  01:51 AM
                            [**2115-12-15**]  02:55 AM
   WBC
   9.1
   7.7
   7.4
   Hct
   28.0
   28.5
   28.2
   Plt
   [**Telephone/Fax (3) 10232**]
   Cr
   2.6
   2.1
   2.2
   1.6
   TCO2
   21
   20
   24
   24
   26
   27
   Glucose
   93
   138
   130
   211
   164
   Other labs: PT / PTT / INR:12.1/22.1/1.0, CK / CKMB /
   Troponin-T:176/4/<0.01, ALT / AST:38/32, Alk Phos / T Bili:302/1.4,
   Amylase / Lipase:25/27, Differential-Neuts:77.6 %, Band:0.0 %,
   Lymph:16.0 %, Mono:4.1 %, Eos:1.8 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.4 g/dL, LDH:193 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.6
   mg/dL
   Imaging: CXR-ETT, OGt and CVL in good position--suggestion of right
   sided effusion today.
   Microbiology: [**12-12**]-Resp culture-Pending
   Catheter Tip-Coag negative staph
   Assessment and Plan
   65 yo male admit with cholangitis and now s/p ERCP with stone removal
   and improved sepsis but left with significant respiratory failure in
   the setting of modest volume overload now moving to negative fluild
   balance each day.  He has had encouraging trend of decrease in
   creatinine across time in the setting of increased diuresis.
   1)Respiratory Failure-Patient with good tolerance of PSV this morning
   but requiring PEEP at elevated levels to maintain airspace patency.
   This seems only mildly changed with patient up in chair today.  He
   retains significant barriers of chest wall restriction which will
   remain largely fixed but also with significant volume overload and
   patient moving to post ATN diuresis.
   -Will maintain as negative as possible in regards to volume status
   -Will maintain with PEEP elevation at 16-20
   -Return to A/C support as needed
   -Will advance ETT 3cm to goal of 4cm above carina
   2) SEPSIS WITHOUT ORGAN DYSFUNCTION-
   Nafcillin
   3)Renal Failure-
   -Follow
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ACIDOSIS, RESPIRATORY
 CHOLANGITIS
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-12-12**] 05:16 PM
   Arterial Line - [**2115-12-12**] 07:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2115-12-16 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Was -1.5L by the time of rounds so held off on further Lasix, was
   negative 2.3L at 8pm
   - Surgery signed off
   - Switched to PS at 10/16, 50% FiO2, tolerated well, 7.42/45/103/30/3,
   then weaned PEEP to 14
   - Renal recs: Patient is post-ATN diuresis, has hypernatremia with Na
   147 in pm labs and recommended not giving Lasix because patietn
   autodiuresing well, may sign off today if Cr continues to improve
   - ERCP recs: No new recs
   - Urine Na 35, Urine osm 383
   - Restarted on home amlodipine (10mg po daily) and given hydral 10mg
   po for hypertension
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2115-12-13**] 08:01 AM
   Piperacillin - [**2115-12-13**] 10:00 AM
   Nafcillin - [**2115-12-16**] 04:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2115-12-15**] 07:55 AM
   Hydralazine - [**2115-12-16**] 03:16 AM
   Heparin Sodium (Prophylaxis) - [**2115-12-16**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-12-16**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 81 (74 - 86) bpm
   BP: 171/77(114) {141/61(88) - 203/104(143)} mmHg
   RR: 31 (17 - 31) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 168.6 kg (admission): 153 kg
   Height: 57 Inch
    CVP: 10 (10 - 10)mmHg
   Total In:
                                                                  1,974 mL
                                                                    475 mL
   PO:
   TF:
   IVF:
                                                                  1,974 mL
                                                                    475 mL
   Blood products:
   Total out:
                                                                  4,215 mL
                                                                    410 mL
   Urine:
                                                                  4,215 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,241 mL
                                                                     65 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 320 (320 - 378) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   SpO2: 93%
   ABG: 7.40/44/87.[**Numeric Identifier 7**]/27/1
   Ve: 7.3 L/min
   PaO2 / FiO2: 176
   Physical Examination
   General Appearance: Overweight / Obese, intubated and sedated
   CV: RRR, nl S1, S2, murmur not appreciated
   Pulm: lungs CTAB on anterior exam only
   Abd: Obese and distended, soft, NT, bowel sounds present
   Head, Ears, Nose, Throat: Endotracheal tube in place
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to verbal stimuli, Sedated, Tone: Not assessed
   Labs / Radiology
   310 K/uL
   9.6 g/dL
   128 mg/dL
   1.3 mg/dL
   27 mEq/L
   3.7 mEq/L
   29 mg/dL
   110 mEq/L
   146 mEq/L
   29.0 %
   5.5 K/uL
        [image002.jpg]
                            [**2115-12-13**]  02:42 PM
                            [**2115-12-13**]  04:14 PM
                            [**2115-12-13**]  10:14 PM
                            [**2115-12-14**]  04:40 AM
                            [**2115-12-15**]  01:51 AM
                            [**2115-12-15**]  02:55 AM
                            [**2115-12-15**]  01:54 PM
                            [**2115-12-15**]  02:11 PM
                            [**2115-12-16**]  04:29 AM
                            [**2115-12-16**]  05:53 AM
   WBC
   7.7
   7.4
   5.5
   Hct
   28.5
   28.2
   29.0
   Plt
   [**Telephone/Fax (3) 10254**]
   Cr
   2.2
   1.6
   1.5
   1.3
   TCO2
   24
   24
   26
   27
   30
   28
   Glucose
   130
   211
   164
   125
   128
   Other labs: PT / PTT / INR:12.5/23.1/1.1, CK / CKMB /
   Troponin-T:176/4/<0.01, ALT / AST:37/36, Alk Phos / T Bili:255/1.1,
   Amylase / Lipase:29/34, Differential-Neuts:64.0 %, Band:2.0 %,
   Lymph:24.0 %, Mono:6.0 %, Eos:1.0 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.4 g/dL, LDH:193 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:4.0
   mg/dL
[**2115-12-12**] 8:30 pm CATHETER TIP-IV      Source: right IJ CVL.
                            **FINAL REPORT [**2115-12-15**]**
   WOUND CULTURE (Final [**2115-12-15**]):
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    >15 colonies.
         COAG NEG STAPH does NOT require contact precautions, regardless of
         resistance Oxacillin RESISTANT Staphylococci MUST be reported as
         also RESISTANT to other penicillins, cephalosporins, carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations Rifampin
         should not be used alone for therapy.
         Please contact the Microbiology Laboratory ([**7-/2412**]) immediately if
         sensitivity to clindamycin is required on this patient's isolate.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             STAPHYLOCOCCUS, COAGULASE NEGATIVE
                             |
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------   0.5 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
VANCOMYCIN------------   <=1 S
   Assessment and Plan
   65 year-old morbidly obese gentleman w/ DM2 and history of
   cholecystitis admitted for cholangitis, s/p ERCP w/ CBD stent
   placement, extraction of CBD stones and sphincterotomy and subsequent
   sepsis, currently intubated and sedated.
   #. Respiratory failure with b/l pleural effusions on CXR.  Pt has short
   inspiratory phase and prolonged expiration with massive rebound of his
   pannus which could cause ventilator to deliver additional breaths.
   Moreover, resp failure was likely redistribution of fluid from
   cholangitis/ bacteremia, which is now improving.   Renal function
   improving and likely will be less of a barrier to extubation due to
   volume status.
   -- Continue on pressure support, wean sedation and wean PEEP as
   tolerated
   -- Diuresis goal of -1-2 liters daily, goal achieved yesterday
   -- Monitor renal function, urine output
    -If  PEEP at 10  or less and PS at 5, will move to extubation
   - consider changing sedation to versed/fentanyl if looks like patient
   will not extubate within 24 hours
   - check triglycerides
   .
   # SEPSIS: Hypotension now resolved, weaned off all pressors.  Likely he
   was hypotensive from sepsis from known infection from cholangitis.
   Patient is s/p ERCP w/ sphincterotomy and extraction of gallstones and
   purulent material.
   -- continue Nafcillin 2g q4h as per ID recs (day 5, last day [**2115-12-24**])
   -- fluid boluses as needed, urine output has been improving
   -- f/u final TEE report: prelim shows no valvular vegetation, masses or
   abscess.
   -- f/u all outstanding cultures
   --Catheter tip with coag negative staph  concerning, but most likely
   contaminant giving patient
s clinical status. Will discuss with ID
   whether need to broaded coverage.
   .
   .
   #. Hypertension:
   - start hydralazine 10 q6h, consider adding beta blocker if continues
   to be hypertensive
   #. [**Last Name (un) **]  - Urine output has picked up, likely was a combination of ATN
   and prerenal etiologies.
   -- appreciate renal recs
   -- will trend BUN/Cr
   #. CHOLANGITIS
 ERCP following, recommended repeat in 6 weeks for
   stent pull
   -F/u ERCP and surgery recs
   #FEN:  Tube feeds; will likely restart in PM
   .
   #PPX: Famotidine, heparin SC
   ACCESS:  Left IJ [**12-12**], right radial A line [**12-12**]
   FULL CODE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-12-12**] 05:16 PM
   Arterial Line - [**2115-12-12**] 07:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-12-16 11:26:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   Renal Failure
   Cholangitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient maintained in PSV with wean in PEEP to 12 through to this
   morning
   Patient with increase in urine output across past 12 hours
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2115-12-16**] 08:00 AM
   Infusions:
   Propofol - 45 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2115-12-16**] 03:16 AM
   Heparin Sodium (Prophylaxis) - [**2115-12-16**] 06:00 AM
   Famotidine (Pepcid) - [**2115-12-16**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-12-16**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.5
C (97.7
   HR: 87 (74 - 87) bpm
   BP: 158/73(106) {133/55(81) - 203/104(143)} mmHg
   RR: 26 (17 - 31) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 163.8 kg (admission): 153 kg
   Height: 57 Inch
   CVP: 10 (10 - 10)mmHg
   Total In:
                                                                  1,974 mL
                                                                    830 mL
   PO:
   TF:
   IVF:
                                                                  1,974 mL
                                                                    830 mL
   Blood products:
   Total out:
                                                                  4,215 mL
                                                                    850 mL
   Urine:
                                                                  4,215 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,241 mL
                                                                    -20 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 321 (320 - 378) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   SpO2: 92%
   ABG: 7.40/44/87.[**Numeric Identifier 7**]/27/1
   Ve: 7.6 L/min
   PaO2 / FiO2: 176
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Obese
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.6 g/dL
   310 K/uL
   128 mg/dL
   1.3 mg/dL
   27 mEq/L
   3.7 mEq/L
   29 mg/dL
   110 mEq/L
   146 mEq/L
   29.0 %
   5.5 K/uL
        [image002.jpg]
                            [**2115-12-13**]  02:42 PM
                            [**2115-12-13**]  04:14 PM
                            [**2115-12-13**]  10:14 PM
                            [**2115-12-14**]  04:40 AM
                            [**2115-12-15**]  01:51 AM
                            [**2115-12-15**]  02:55 AM
                            [**2115-12-15**]  01:54 PM
                            [**2115-12-15**]  02:11 PM
                            [**2115-12-16**]  04:29 AM
                            [**2115-12-16**]  05:53 AM
   WBC
   7.7
   7.4
   5.5
   Hct
   28.5
   28.2
   29.0
   Plt
   [**Telephone/Fax (3) 10254**]
   Cr
   2.2
   1.6
   1.5
   1.3
   TCO2
   24
   24
   26
   27
   30
   28
   Glucose
   130
   211
   164
   125
   128
   Other labs: PT / PTT / INR:12.5/23.1/1.1, CK / CKMB /
   Troponin-T:176/4/<0.01, ALT / AST:37/36, Alk Phos / T Bili:255/1.1,
   Amylase / Lipase:29/34, Differential-Neuts:64.0 %, Band:2.0 %,
   Lymph:24.0 %, Mono:6.0 %, Eos:1.0 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.4 g/dL, LDH:193 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:4.0
   mg/dL
   Imaging: CXR-Bilateral pleural effusions
   Microbiology: Catheter Tip--+ for MRSA
   Assessment and Plan
   65 yo male with obesity and now admitted wtih cholangitis and now with
   persistent respiratory failure.  We have substantial improvement in all
   parameters that were abnormal as a result of acute infectious insult
   with sepsis resolved, acute renal failure showing substantial
   improvement but we are left with signficant chest wall restriction with
   significant obesity.  We will need to evolve a path to wean of
   ventilator support.
   1)Respiratory Failure-patient with concerning findings of bilateral
   pleural effusions.  He has quite a reasonable capacity to tolerate
   minimal PSV support with PS=5 this morning which is favorable.  What is
   a limiting factor is the risk of significant hypoxemia and collapse
   following removal of positive intrapleural pressures.
   -Will keep PEEP at 12-16 cm H2O
   -Would like to move to negative fluid balance across today
   -Will keep sedation reasonable
   -PSV decreased to 5 and would like to maintain adequte ventilation to
   keep PCO2 45-50
   -Will move to Versed/Fentanyl
   -Will check triglycerides
   -Will move to blood pressure control at this time in advance of
   extubation and will return to beta blocker for BP control as well as
   afterload reduction
   -If we can move to PSV of 5, PEEP at 10 or less will move to
   extubation.
   -Of note
patient has had excellent mental status on exam today with
   current levels of sedation
   2)Sepsis--Secondary to cholangitis and with subsequent gram positive
   bacteremia with MSSA seen on blood cultures
   -Nafcillin in place
   -Catheter tip with coag negative staph is of concern but do not see
   evidence of systemic insult from a resistant pathogen
without further
   confirmation that organism is active pathogen will continue with
   current Rx.
   ICU Care
   Nutrition: Patient without tube feeds at this time
would like to
   provide nutritional support.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-12-12**] 05:16 PM
   Arterial Line - [**2115-12-12**] 07:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes

2115-12-17 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Yesterday, tolerated PEEP 10 and PS 5 well: ABG 7.42/45/91/30. Put on
   PEEP 16 and PS 5 to rest overnight, but did not tolerate well.  Tidal
   Volume decreased to 200s with RR in 30s, and PS was increased to 15.
   -triglycerides elevated but continued on propofol anyway because of
   plan to extubate in AM
   -lasix 20 mg IV given at 6pm b/c fluids even -> -1.5 L at 11pm
   -renal and surgery signed off
   -curbside ID: no need for vanc despite MRSA in catheter tip
   This AM, back to [**10-26**], with ABG: 7.43/44/75/26.  Pt hypertensive to
   190s and looking very uncomfortable off sedation, complaining of
   pain.   Propofol restarted at 20 mcg (half dose) and given 10 IV
   hydralazine in addition to PO dose of 10 hydral. BP did not respond.
   Switch to precedex.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2115-12-17**] 04:01 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2115-12-16**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2115-12-17**] 05:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-12-17**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.1
C (98.7
   HR: 89 (77 - 94) bpm
   BP: 198/90(136) {137/55(82) - 198/123(149)} mmHg
   RR: 22 (11 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 163.8 kg (admission): 153 kg
   Height: 57 Inch
             Total In:
                                                                  1,965 mL
                                                                    603 mL
   PO:
             TF:
   IVF:
                                                                  1,965 mL
                                                                    503 mL
   Blood products:
   Total out:
                                                                  3,545 mL
                                                                    725 mL
   Urine:
                                                                  3,545 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,580 mL
                                                                   -122 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 560 (295 - 560) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 97%
   ABG: 7.43/44/75/26/3 (on [**10-26**])
   Ve: 11.1 L/min
   PaO2 / FiO2: 150
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No murmurs appreciated
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   Anterior exam only
   Abdominal: Soft, Non-tender, Distended, Obese
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   309 K/uL
   9.3 g/dL
   143 mg/dL
   1.2 mg/dL
   26 mEq/L
   3.6 mEq/L
   23 mg/dL
   112 mEq/L
   145 mEq/L
   28.1 %
   5.7 K/uL
        [image002.jpg]
                            [**2115-12-15**]  01:51 AM
                            [**2115-12-15**]  02:55 AM
                            [**2115-12-15**]  01:54 PM
                            [**2115-12-15**]  02:11 PM
                            [**2115-12-16**]  04:29 AM
                            [**2115-12-16**]  05:53 AM
                            [**2115-12-16**]  02:37 PM
                            [**2115-12-16**]  02:54 PM
                             [**2115-12-17**]  04:39 AM
                             [**2115-12-17**]  04:54 AM
   WBC
   7.4
   5.5
   5.7
   Hct
   28.2
   29.0
   28.1
   Plt
   [**Telephone/Fax (3) 10275**]
   Cr
   1.6
   1.5
   1.3
   1.2
   1.2
   TCO2
   27
   30
   28
   30
   30
   Glucose
   164
   125
   128
   137
   143
   Other labs: PT / PTT / INR:12.5/23.1/1.1, CK / CKMB /
   Troponin-T:176/4/<0.01, ALT / AST:37/36, Alk Phos / T Bili:255/1.1,
   Amylase / Lipase:29/34, Differential-Neuts:64.0 %, Band:2.0 %,
   Lymph:25.0 %, Mono:3.0 %, Eos:2.0 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.4 g/dL, LDH:193 IU/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.6
   mg/dL
   Blood Cx [**12-3**], [**12-15**], [**12-16**] pending
   Assessment and Plan
   65 year-old morbidly obese gentleman w/ DM2 and history of
   cholecystitis admitted for cholangitis, s/p ERCP w/ CBD stent
   placement, extraction of CBD stones and sphincterotomy and subsequent
   sepsis, currently intubated and sedated.
   #. Respiratory failure with b/l pleural effusions on CXR.  Pt has short
   inspiratory phase and prolonged expiration with massive rebound of his
   pannus which could cause ventilator to deliver additional breaths.
   Moreover, resp failure was likely redistribution of fluid from
   cholangitis/ bacteremia, which is now improving.   Renal function
   improving and likely will be less of a barrier to extubation due to
   volume status.
   -- Continue on pressure support, wean sedation and wean PEEP as
   tolerated
   -- Diuresis goal of -1-2 liters daily, goal achieved yesterday
   -- Monitor renal function, urine output
    -If  PEEP at 10  or less and PS at 5, will move to extubation
   - consider changing sedation to versed/fentanyl if looks like patient
   will not extubate within 24 hours
   - check triglycerides
   .
   # SEPSIS: Hypotension now resolved, weaned off all pressors.  Likely he
   was hypotensive from sepsis from known infection from cholangitis.
   Patient is s/p ERCP w/ sphincterotomy and extraction of gallstones and
   purulent material.
   -- continue Nafcillin 2g q4h as per ID recs (day 5, last day [**2115-12-24**])
   -- fluid boluses as needed, urine output has been improving
   -- f/u final TEE report: prelim shows no valvular vegetation, masses or
   abscess.
   -- f/u all outstanding cultures
   --Catheter tip with coag negative staph  concerning, but most likely
   contaminant giving patient
s clinical status. Will discuss with ID
   whether need to broaded coverage.
   .
   .
   #. Hypertension:
   - start hydralazine 10 q6h, consider adding beta blocker if continues
   to be hypertensive
   #. [**Last Name (un) **]  - Urine output has picked up, likely was a combination of ATN
   and prerenal etiologies.
   -- appreciate renal recs
   -- will trend BUN/Cr
   #. CHOLANGITIS
 ERCP following, recommended repeat in 6 weeks for
   stent pull
   -F/u ERCP and surgery recs
   #FEN:  Tube feeds; will likely restart in PM
   .
   #PPX: Famotidine, heparin SC
   ACCESS:  Left IJ [**12-12**], right radial A line [**12-12**]
   FULL CODE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-12-12**] 05:16 PM
   Arterial Line - [**2115-12-12**] 07:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-12-17 09:03:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with PSV=5 and required increase to 15 due to significant
   decrease in Vt and increase in RR.
   Patient with low grade temp to 100.3 last PM and cultures sent
   Patient with significant negative fluid balance over the course of
   yesterday
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2115-12-17**] 07:48 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Dexmedetomidine (Precedex) - 1 mcg/Kg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2115-12-17**] 05:02 AM
   Morphine Sulfate - [**2115-12-17**] 06:00 AM
   Hydralazine - [**2115-12-17**] 06:30 AM
   Famotidine (Pepcid) - [**2115-12-17**] 07:48 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, low grade
   Respiratory: Tachypnea
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2115-12-17**] 08:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.4
C (99.4
   HR: 85 (77 - 94) bpm
   BP: 189/88(130) {137/55(82) - 198/123(149)} mmHg
   RR: 19 (11 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 163.8 kg (admission): 153 kg
   Height: 57 Inch
             Total In:
                                                                  1,965 mL
                                                                    954 mL
   PO:
             TF:
   IVF:
                                                                  1,965 mL
                                                                    824 mL
   Blood products:
   Total out:
                                                                  3,545 mL
                                                                    995 mL
   Urine:
                                                                  3,545 mL
                                                                    995 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,580 mL
                                                                    -41 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 401 (295 - 560) mL
   PS : 5 cmH2O
   RR (Spontaneous): 35
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 17 cmH2O
   SpO2: 96%
   ABG: 7.40/45/171/26/2
   Ve: 13.6 L/min
   PaO2 / FiO2: 342
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed, Patient interactive with sedation weaned
   Labs / Radiology
   9.3 g/dL
   309 K/uL
   143 mg/dL
   1.2 mg/dL
   26 mEq/L
   3.6 mEq/L
   23 mg/dL
   112 mEq/L
   145 mEq/L
   28.1 %
   5.7 K/uL
        [image002.jpg]
                            [**2115-12-15**]  02:55 AM
                            [**2115-12-15**]  01:54 PM
                            [**2115-12-15**]  02:11 PM
                            [**2115-12-16**]  04:29 AM
                            [**2115-12-16**]  05:53 AM
                            [**2115-12-16**]  02:37 PM
                            [**2115-12-16**]  02:54 PM
                             [**2115-12-17**]  04:39 AM
                             [**2115-12-17**]  04:54 AM
                             [**2115-12-17**]  07:20 AM
   WBC
   5.5
   5.7
   Hct
   29.0
   28.1
   Plt
   310
   309
   Cr
   1.5
   1.3
   1.2
   1.2
   TCO2
   27
   30
   28
   30
   30
   29
   Glucose
   125
   128
   137
   143
   Other labs: PT / PTT / INR:12.5/23.1/1.1, CK / CKMB /
   Troponin-T:176/4/<0.01, ALT / AST:37/36, Alk Phos / T Bili:255/1.1,
   Amylase / Lipase:29/34, Differential-Neuts:64.0 %, Band:2.0 %,
   Lymph:25.0 %, Mono:3.0 %, Eos:2.0 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.4 g/dL, LDH:193 IU/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.6
   mg/dL
   Imaging: CXR-Very poor quality, unable to review in detail.  Will need
   to be repeated.
   Assessment and Plan
   65 yo male with admission with cholangitis and sepsis complicated by
   respiratory failure and renal failure now improved.  He retains a very
   difficult issue in regards to oxygenation and effective ventilation in
   the setting of substantial obesity.  He has quite good improvement in
   renal function and has been able to maintain negative fluid balance
   over the past days.
   1)Respiratory Failure-Patient has initial intubation in the setting of
   sepsis secondary to biliary source.  This was complicated by
   significant renal failure.  Now patient has good evidence that sepsis
   has resolved.  In addition, patient has had substantial improvement in
   urine flow.  He retains a good mental status with wake up from sedation
   wean and has adequate cuff leak present.  He has been able to maintain
   adequate ventilation with PSV in place but with significant elevation
   in respiratory rate.
   Given substantial improvement in initial insult and improved mental
   status noted this may be favorable time to consider extubation with
   some real risk.
   -Will contact anesthesia to consider approach for optimization of
   safety around extubation attempt.
   -Will have patient up to chair as possible aid in optimization in
   pulmonary mechanics
   -Will use Nitroprusside peri-extubation
   -Will add to Amlodipine/Hydral at this time
   2)HTN-
   Hydral/Amlodipine in place
   -Will move to nipride for control at this time
   Will need long term Rx
   3)Sepsis-
   -Continue ABX
   -Will need to consider culture results in future treatment
   4)Renal Failure-
   -Improved renal failure
   -Creatinine is stabilized at 1.2 and will maintain fluid balance as
   even today
   -Follow Cr
   ICU Care
   Nutrition: NPO this morning
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2115-12-12**] 05:16 PM
   Arterial Line - [**2115-12-12**] 07:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2115-12-18 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2115-12-17**] 12:03 PM
   BC x2
   1 set from aline
   1 set from cvl
   - Plan to extubate today with anesthesia present, add labetalol after
   extubation however desated with movement
   - got 20mg IV lasix for diuresis at 2pm, net neg 1.5 L for day
   - pt. using Presodex at approx $800/hr
   - changed TFs
   - recheck of TGs was 500s.  discussed restarting propofol with pharmacy
   and they stated as long as temporary and level <1000 thought it was OK.
   - put on peep of 15 overnight and plan to retry plan of extubation in
   am.  resp therapy stated to consider decreasing to 12 of peep first.
   this was done, ABG:
   - with nitroprusside gtt and labetolol 200mg PO, dropped pressure to 80
   then 60s, so stopped drip, started bolusing with IV labetolol, received
   140mg over approx 2 hours without change.  Got 10mg IV Hydral and
   decreased approx 15 SBP. Real BP change came with change in sedation.
   - was given 25 mcg of fentanyl approx 2345 for looking uncomfortable
   with cough and possible pain.
   -approximately 1am, P02 was only approx 100 on 50% fi02, so felt would
   not make extubation tomorrow so d/c'd presodex and started midaz
   boluses with fentanyl.
   -gave 20IV Lasix at around 5am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2115-12-18**] 07:31 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2115-12-17**] 02:04 PM
   Furosemide (Lasix) - [**2115-12-17**] 02:04 PM
   Labetalol - [**2115-12-17**] 08:25 PM
   Hydralazine - [**2115-12-17**] 10:10 PM
   Morphine Sulfate - [**2115-12-17**] 10:20 PM
   Midazolam (Versed) - [**2115-12-18**] 07:27 AM
   Fentanyl - [**2115-12-18**] 07:27 AM
   Famotidine (Pepcid) - [**2115-12-18**] 07:32 AM
   Other medications:
   Amlodipine 3. Chlorhexidine Gluconate 0.12% Oral Rinse 4. Docusate
   Sodium 5. Famotidine 6. Fentanyl Citrate
   7. Fentanyl Citrate 8. Furosemide 9. Furosemide 10. Glucagon 11.
   Heparin 12. HydrALAzine 13. HydrALAzine
   14. Insulin 15. Lactulose 16. Labetalol 17. Labetalol 18. Labetalol 19.
   Magnesium Sulfate 20. Miconazole Powder 2%
   21. Midazolam 22. Morphine Sulfate 23. Nafcillin 24. Pneumococcal Vac
   Polyvalent 25. Polyethylene Glycol
   26. Potassium Chloride 27. Senna 28. Sodium Chloride 0.9% Flush
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-12-18**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.4
   HR: 88 (76 - 89) bpm
   BP: 146/57(83) {133/57(80) - 221/203(266)} mmHg
   RR: 24 (14 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 163.8 kg (admission): 153 kg
   Height: 57 Inch
             Total In:
                                                                  2,753 mL
                                                                    865 mL
   PO:
             TF:
   IVF:
                                                                  2,423 mL
                                                                    665 mL
   Blood products:
   Total out:
                                                                  4,340 mL
                                                                  1,130 mL
   Urine:
                                                                  4,280 mL
                                                                  1,130 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,587 mL
                                                                   -265 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 319 (317 - 401) mL
   PS : 8 cmH2O
   RR (Spontaneous): 22
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   SpO2: 95%
   ABG: 7.43/43/89.[**Numeric Identifier 299**]/28/3
   Ve: 7.9 L/min
   PaO2 / FiO2: 178
   Physical Examination
   GEN: alert, indicating pain of ETT
   CV: RRR nl s1/s2 no mrg difficult to assess
   Pulm: decreased BS
   Abd: obese, +BS, soft, NT
   Ext: venous stasis ulcers anteriorly shins, exts warm, moving all
   Labs / Radiology
   297 K/uL
   9.5 g/dL
   154 mg/dL
   1.3 mg/dL
   28 mEq/L
   3.9 mEq/L
   24 mg/dL
   107 mEq/L
   143 mEq/L
   29.6 %
   7.1 K/uL
        [image002.jpg]
                            [**2115-12-16**]  05:53 AM
                            [**2115-12-16**]  02:37 PM
                            [**2115-12-16**]  02:54 PM
                             [**2115-12-17**]  04:39 AM
                             [**2115-12-17**]  04:54 AM
                             [**2115-12-17**]  07:20 AM
                             [**2115-12-17**]  01:52 PM
                             [**2115-12-18**]  12:58 AM
                             [**2115-12-18**]  04:26 AM
                             [**2115-12-18**]  05:16 AM
   WBC
   5.7
   7.1
   Hct
   28.1
   29.6
   Plt
   309
   297
   Cr
   1.2
   1.2
   1.3
   TCO2
   28
   30
   30
   29
   29
   29
   29
   Glucose
   137
   143
   154
   Other labs: PT / PTT / INR:12.4/23.8/1.0, CK / CKMB /
   Troponin-T:176/4/<0.01, ALT / AST:30/27, Alk Phos / T Bili:209/0.9,
   Amylase / Lipase:29/34, Differential-Neuts:64.0 %, Band:2.0 %,
   Lymph:25.0 %, Mono:3.0 %, Eos:2.0 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.4 g/dL, LDH:193 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.3
   mg/dL
   Microbiology: blood 12/1, [**12-16**], [**12-15**], [**12-13**] pending
   [**12-12**], [**12-11**]  blood negative
   Assessment and Plan
 HYPERTENSION, BENIGN
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ACIDOSIS, RESPIRATORY
 CHOLANGITIS
   65 year-old morbidly obese gentleman w/ DM2 and history of
   cholecystitis admitted for cholangitis, s/p ERCP w/ CBD stent
   placement, extraction of CBD stones and sphincterotomy and subsequent
   sepsis, currently intubated and sedated.
   #. Respiratory failure with b/l pleural effusions on CXR.   Moreover,
   resp failure was likely redistribution of fluid from cholangitis/
   bacteremia, which is now improving.   Renal function improving and
   likely will be less of a barrier to extubation due to volume status.
   Patient has been tolerating PS 5 and PEEP of 12 this morning with good
   mental status when sedation is weaned.
   -Will attempt extubation today, with anesthesia involved to optimize
   safety
   -Will have patient up to chair to aid in pulmonary mechanics
   -nitroprusside peri-extubation to improved BP control and help diminish
   risk of flash pulmonary edema
   -continue fentanyl/midaz for sedation peri-extubation
   .
   # Hypertension:
   -nitroprusside peri-extubation
   -continue hydral, amplodipine and labetolol PO
   .
   # SEPSIS: Hypotension now resolved, weaned off all pressors.  Likely he
   was hypotensive from sepsis from known infection from cholangitis.
   Patient is s/p ERCP w/ sphincterotomy and extraction of gallstones and
   purulent material.  Per ID, catheter tip with coag negative staph is
   likely contaminant and no need to broaden coverage.
   -- continue Nafcillin 2g q4h as per ID recs (day 6, last day [**2115-12-24**])
   -- monitor UOP, I/O with continued goal of 1-2L neg
   -- f/u all outstanding cultures
   -- give fever to 100 this am, send UA and ctx, CXR
   .
   #. [**Last Name (un) **] - Urine output now improved, likely was a combination of ATN and
   prerenal etiologies.  Cr
   -- appreciate renal recs
   -- redose renally dosed meds (like H2B)
   -- will continuetrend BUN/Cr
   #. CHOLANGITIS
 ERCP following, recommended repeat in 6 weeks for
   stent pull
   -F/u ERCP and surgery recs
   #FEN:  Tube feeds on hold.  Will readdress nutrition pending outcome of
   extubation attempt.
   .
   #PPX: Famotidine, heparin SC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-12-12**] 05:16 PM
   Arterial Line - [**2115-12-12**] 07:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-12-18 08:53:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2115-12-17**] 12:03 PM
   BC x2
   1 set from aline
   1 set from cvl
   negative fluid balance achieved over past 24 hours
   Bp better controlled with move to labetolol with instability seen in
   the setting of nipride use.  He only had improved stability with bolus
   dosing of sedation overnight
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2115-12-18**] 07:31 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2115-12-17**] 02:04 PM
   Furosemide (Lasix) - [**2115-12-17**] 02:04 PM
   Labetalol - [**2115-12-17**] 08:25 PM
   Hydralazine - [**2115-12-17**] 10:10 PM
   Morphine Sulfate - [**2115-12-17**] 10:20 PM
   Famotidine (Pepcid) - [**2115-12-18**] 07:32 AM
   Midazolam (Versed) - [**2115-12-18**] 07:48 AM
   Fentanyl - [**2115-12-18**] 07:48 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, 100.4
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2115-12-18**] 08:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 90 (76 - 90) bpm
   BP: 141/55(79) {133/55(79) - 221/203(266)} mmHg
   RR: 24 (14 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 163.8 kg (admission): 153 kg
   Height: 57 Inch
             Total In:
                                                                  2,753 mL
                                                                    886 mL
   PO:
             TF:
   IVF:
                                                                  2,423 mL
                                                                    686 mL
   Blood products:
   Total out:
                                                                  4,340 mL
                                                                  1,130 mL
   Urine:
                                                                  4,280 mL
                                                                  1,130 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,587 mL
                                                                   -244 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 96 (96 - 378) mL
   PS : 8 cmH2O
   RR (Spontaneous): 24
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   SpO2: 94%
   ABG: 7.43/43/89.[**Numeric Identifier 299**]/28/3
   Ve: 7.9 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, venous stasis ulcers in anterior shin
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   297 K/uL
   154 mg/dL
   1.3 mg/dL
   28 mEq/L
   3.9 mEq/L
   24 mg/dL
   107 mEq/L
   143 mEq/L
   29.6 %
   7.1 K/uL
        [image002.jpg]
                            [**2115-12-16**]  05:53 AM
                            [**2115-12-16**]  02:37 PM
                            [**2115-12-16**]  02:54 PM
                             [**2115-12-17**]  04:39 AM
                             [**2115-12-17**]  04:54 AM
                             [**2115-12-17**]  07:20 AM
                             [**2115-12-17**]  01:52 PM
                             [**2115-12-18**]  12:58 AM
                             [**2115-12-18**]  04:26 AM
                             [**2115-12-18**]  05:16 AM
   WBC
   5.7
   7.1
   Hct
   28.1
   29.6
   Plt
   309
   297
   Cr
   1.2
   1.2
   1.3
   TCO2
   28
   30
   30
   29
   29
   29
   29
   Glucose
   137
   143
   154
   Other labs: PT / PTT / INR:12.4/23.8/1.0, CK / CKMB /
   Troponin-T:176/4/<0.01, ALT / AST:30/27, Alk Phos / T Bili:209/0.9,
   Amylase / Lipase:29/34, Differential-Neuts:64.0 %, Band:2.0 %,
   Lymph:25.0 %, Mono:3.0 %, Eos:2.0 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.4 g/dL, LDH:193 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.3
   mg/dL
   Fluid analysis / Other labs: TG-400
   Imaging: CXR-Bilateral effusions and consolidations at bases--improved
   lung volumes noted
   Microbiology: BC-all pending and 25+26
   Assessment and Plan
   65 yo male admitted with sepsis now with persistent respiratory failure
   in the setting of resolved sepsis and renal failure.
   1)Respiratory Failure-Patient is faced with significant chest wall
   restriction--but--this morning we have continued negative fluid balance
   and great alertness and resolved sepsis and resolved renal failure and
   good cuff leak and good oxygenation.  So-->
   -Will continue diuresis
   -Willl move patient to upright position
   -Will contact anesthesia prior to extubation but they have completed
   full evaluation yesterday and did want to be notified prior to
   extubation
   -Will use Labetolol PRN following extubation
   -Will consider [**Hospital1 **]-Level support if needed post extubation
   2)Hypertension-
   -Hydralazine
   -Labetolol
   -Will continue to titrate following extubation
   3)Cholangitis-
   -Resolved
   -Will need long term plan in regards to Cholecystectomy
   4)Renal Failure-
   -Creatinine at plateau of 1.3 today in the setting of ongoing negative
   fluid balance.
   ICU Care
   Nutrition: NPO this morning
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-12-12**] 05:16 PM
   Arterial Line - [**2115-12-12**] 07:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: Protocol in place
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2115-12-19 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2115-12-18**] 09:21 AM
   - Extubated, doing well, post-ABG 7.44/43/174/30/5
   - BP controlled in the morning but couldn't take po's yet, ordered
   S+S.  First gave 10mg IV hydralazine x 1, then wrote for 20mg IV hydral
   q6h.  At 9pm, hypertensive with SBP's to 180s-200's, given 20mg IV
   Labetalol x2.  Also got 4mg morphine.  Then persistently hypertensive
   but improved with next hydral dose.  Then hypertensive again to SBP of
   200's, gave 20mg IV labetalol.  Still not working so changed
   hydralazine dose to 30mg IV q4h.
   - pm labs with K 3.5, repleted, C diff ordered
   - Na increased so gave 1L D5W @ 75/hr
   - I/O at 9pm: -1.4L since 12am
   - Patient with some difficulty finding words/confusion last night
   (didn't know he was in [**Location (un) **]).  ABG showed: 7.42/48/99.  Given zydis
   5mg x 2.  Later gave 1mg IV ativan which may have made it worse.  Blood
   sugars were not low.  Unclear baseline English abilities but
   word-finding got worse throughout day and night.  Feel that he is
   likely delirious given long hospital course and recent sedation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2115-12-19**] 03:50 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2115-12-18**] 07:32 AM
   Midazolam (Versed) - [**2115-12-18**] 07:48 AM
   Fentanyl - [**2115-12-18**] 07:48 AM
   Morphine Sulfate - [**2115-12-18**] 09:30 PM
   Lorazepam (Ativan) - [**2115-12-18**] 11:58 PM
   Labetalol - [**2115-12-19**] 03:00 AM
   Hydralazine - [**2115-12-19**] 05:00 AM
   Heparin Sodium (Prophylaxis) - [**2115-12-19**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-12-19**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
F) ([**12-18**] at 8am)
   Tcurrent: 37.3
C (99.2
   HR: 104 (68 - 106) bpm
   BP: 177/68(98) {141/50(79) - 262/257(210)} mmHg
   RR: 30 (21 - 31) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 164.2 kg (admission): 153 kg
   Height: 57 Inch
             Total In:
                                                                  1,966 mL
                                                                    647 mL
   PO:
             TF:
   IVF:
                                                                  1,766 mL
                                                                    647 mL
   Blood products:
   Total out:
                                                                  3,180 mL
                                                                    655 mL
   Urine:
                                                                  3,180 mL
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,214 mL
                                                                     -8 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 96 (96 - 96) mL
   PS : 8 cmH2O
   RR (Spontaneous): 24
   PEEP: 12 cmH2O
   FiO2: 80%
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: 7.42/48/99.[**Numeric Identifier 299**]/29/5 8pm
   Ve: 7.9 L/min
   PaO2 / FiO2: 124
   Physical Examination
   Gen: Awake but oriented only to person, lying in bed in mild
   discomfort, using accessory muscles to breathe
   HEENT: NCAT, MMM, OP clear
   CV: Tachycardic, regular rhythm, S1, S2, no m/r/g
   Pulm: scattered wheezes anteriorly
   Abd: +BS, soft, grossly distended and obese, nontender
   Extrem: 1+ Edema in LE b/l, diminished DP pulses b/l
   Labs / Radiology
   290 K/uL
   9.3 g/dL
   155 mg/dL
   1.1 mg/dL
   29 mEq/L
   3.3 mEq/L
   22 mg/dL
   107 mEq/L
   146 mEq/L
   29.5 %
   10.5 K/uL
        [image002.jpg]
                             [**2115-12-17**]  04:54 AM
                             [**2115-12-17**]  07:20 AM
                             [**2115-12-17**]  01:52 PM
                             [**2115-12-18**]  12:58 AM
                             [**2115-12-18**]  04:26 AM
                             [**2115-12-18**]  05:16 AM
                             [**2115-12-18**]  11:00 AM
                             [**2115-12-18**]  02:26 PM
                             [**2115-12-18**]  08:17 PM
                             [**2115-12-19**]  03:35 AM
   WBC
   7.1
   10.5
   Hct
   29.6
   29.5
   Plt
   297
   290
   Cr
   1.3
   1.3
   1.1
   TCO2
   30
   29
   29
   29
   29
   30
   32
   Glucose
   154
   143
   155
   Other labs: PT / PTT / INR:13.2/25.0/1.1, CK / CKMB /
   Troponin-T:176/4/<0.01, ALT / AST:26/24, Alk Phos / T Bili:180/0.9,
   Amylase / Lipase:29/34, Differential-Neuts:64.0 %, Band:2.0 %,
   Lymph:25.0 %, Mono:3.0 %, Eos:2.0 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.4 g/dL, LDH:193 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.4
   mg/dL
    UA mod blood, otherwise neg, U culture sent
   BCx pending from [**12-13**], [**12-16**], 12/1
 [**1-18**] bottle from [**12-15**] came back
   positive for GPR's
   Urine culture [**12-18**] pending
   - CXR overnight showed increased congestion, effusions, L base opacity
   - CXR this AM shows stable congestion and effusions.
   Assessment and Plan
   65 year-old morbidly obese gentleman w/ DM2 and history of
   cholecystitis admitted for cholangitis, s/p ERCP w/ CBD stent
   placement, extraction of CBD stones and sphincterotomy and subsequent
   sepsis, currently intubated and sedated.
   .
   #. Respiratory failure with b/l pleural effusions on CXR.   Moreover,
   resp failure was likely redistribution of fluid from cholangitis/
   bacteremia, which is now improving.   Extubated yesterday with good
   post-extubation ABG.  Tolerating face tent with good oxygenation, but
   continues to be tachypneic and intermittently complains of dyspnea.
   CXR shows persistent fluid overload and possible left base
   consolidation.
   -continue to monitor I/O
   -daily lasix prn to maintain goal of 1-2L neg
   -consider Bipap at night (uses CPAP at home)
   .
   # Altered Mental Status: Most likely delirium, and felt to be related
   to prolonged sedation while intubated.  Unlikely to be metabolic
   process given normal electrolytes.   Will continue to monitor.
   # Hypertension: Pt cleared for POs and will transition to partial home
   regimen.
   - PO amlodipine, labetolol and lisinopril for now
   - can add home [**Last Name (un) **] if continues to be hypertensive
   .
   # SEPSIS: Hypotension now resolved, weaned off all pressors.  Likely he
   was hypotensive from sepsis from known infection from cholangitis.
   Patient is s/p ERCP w/ sphincterotomy and extraction of gallstones and
   purulent material.  Per ID, catheter tip with coag negative staph is
   likely contaminant and no need to broaden coverage.  New Cx from [**12-15**]
   pos for GPRs is likely a contaminant.  Will remove arterial line and
   monitor for further fevers.
   -- continue Nafcillin 2g q4h as per ID recs (day 6, last day [**2115-12-24**])
   -- f/u all outstanding cultures
   .
   #. [**Last Name (un) **] - Urine output now improved, likely was a combination of ATN and
   prerenal etiologies.
   -- will continue to trend BUN/Cr
   .
   #. CHOLANGITIS
 ERCP following, recommended repeat in 6 weeks for
   stent pull
   -F/u ERCP and surgery recs
   .
#FEN:  Per Speech and swallow, ok for ground solids, nectar thick liquids. PO me
ds whole with puree
   .
   #PPX: Famotidine, heparin SC
   ICU Care
   Nutrition: ground solids, nectar thick liquids
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-12-12**] 05:16 PM
   Arterial Line - [**2115-12-12**] 07:32 PM
 will pull today
   Plan to place PICC line today
   Prophylaxis:
   DVT: heparin sq
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2115-12-19 11:02:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2115-12-18**] 09:21 AM
   -Patient with intermittent agitation and confusion overnight--exam
   difficult
   -Afebrile since yesterday morning's 100.4 temp
   -Continued negative fluid balance
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2115-12-19**] 08:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2115-12-18**] 09:30 PM
   Lorazepam (Ativan) - [**2115-12-18**] 11:58 PM
   Labetalol - [**2115-12-19**] 03:00 AM
   Heparin Sodium (Prophylaxis) - [**2115-12-19**] 06:00 AM
   Hydralazine - [**2115-12-19**] 08:00 AM
   Famotidine (Pepcid) - [**2115-12-19**] 10:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Respiratory: Cough
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2115-12-19**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36
C (96.8
   HR: 105 (68 - 106) bpm
   BP: 178/62(96) {147/50(79) - 262/257(210)} mmHg
   RR: 27 (21 - 32) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 164.2 kg (admission): 153 kg
   Height: 57 Inch
             Total In:
                                                                  1,966 mL
                                                                  1,078 mL
   PO:
             TF:
   IVF:
                                                                  1,766 mL
                                                                  1,078 mL
   Blood products:
   Total out:
                                                                  3,180 mL
                                                                  1,515 mL
   Urine:
                                                                  3,180 mL
                                                                  1,515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,214 mL
                                                                   -437 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: 7.43/44/85.[**Numeric Identifier 299**]/29/3
   PaO2 / FiO2: 106
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: ), Patient with accessory muscle use
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): Person only, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   290 K/uL
   155 mg/dL
   1.1 mg/dL
   29 mEq/L
   3.3 mEq/L
   22 mg/dL
   107 mEq/L
   146 mEq/L
   29.5 %
   10.5 K/uL
        [image002.jpg]
                             [**2115-12-17**]  07:20 AM
                             [**2115-12-17**]  01:52 PM
                             [**2115-12-18**]  12:58 AM
                             [**2115-12-18**]  04:26 AM
                             [**2115-12-18**]  05:16 AM
                             [**2115-12-18**]  11:00 AM
                             [**2115-12-18**]  02:26 PM
                             [**2115-12-18**]  08:17 PM
                             [**2115-12-19**]  03:35 AM
                             [**2115-12-19**]  08:08 AM
   WBC
   7.1
   10.5
   Hct
   29.6
   29.5
   Plt
   297
   290
   Cr
   1.3
   1.3
   1.1
   TCO2
   29
   29
   29
   29
   30
   32
   30
   Glucose
   154
   143
   155
   Other labs: PT / PTT / INR:13.2/25.0/1.1, CK / CKMB /
   Troponin-T:176/4/<0.01, ALT / AST:26/24, Alk Phos / T Bili:180/0.9,
   Amylase / Lipase:29/34, Differential-Neuts:64.0 %, Band:2.0 %,
   Lymph:25.0 %, Mono:3.0 %, Eos:2.0 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.4 g/dL, LDH:193 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.4
   mg/dL
   Imaging: CXR-Persistent bilateral lower lobe opacites and effusions.
   Microbiology: [**12-15**]-Gram Positive Rods on [**1-20**] bottles on [**12-15**]
   Assessment and Plan
   65 yo male with obsity and admit with cholangitis and sepsis now
   extubated with success.  He did have some alteration in mental status
   across the night but has returned to good alertness this morning but
   has limited orientation representing a dynamic exam of enceophalopathy
   across time.
   1)Respiratory Failure-This remains the primary threat to patient
   progress
   -extubated without event
   -He retains tachypnea and significant O2 requirement related to
   bilateral consolidations and effusions
   -Will trial nasal BIPAP going forward for support
   -Ideally patient will do incentive spirometry at some point but not
   able to right now
   -Chest PT may aid in treatment for secretion clearance
   -Continue negative fluid balance
   2)Hypertension-
   -Amlodipine 10mg
   -Hydral 40mg q 4 hours
   3)Altered Mental Status
This is delirium
likely multifactorial
   -Will minimize sedating medications
   -Follow exam, which at this point does not suggest focal CNS deficit
   4)Acute renal failure-
   -continued creatinine improvement in the setting of negative fluid
   balance
   -Continue negative fluild balance
   5)Cholangitis--AP mild elevated, other enzymes improved
   -Willl need follow up evaluation for removal of gallbladder
   -Will complete nafcillin
   ICU Care
   Nutrition:PO to start based on Speech and Swalllow evaluation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2115-12-12**] 05:16 PM
   Arterial Line - [**2115-12-12**] 07:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2115-12-20 06:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2115-12-19**] 12:00 PM
   -diet (passed speech and swallow)
   -amlodipine/lisinopril/labetolol PO standing->BPS controlled most of
   day, went up to 180s systolic and got 20 IV hydral at 2230 with good
   effect
   -PICC ordered for today (did not get yet)
   -rec'd lasix 20 IV in PM
   - bipap overnight
   -fever 101 at 1800 - Blood cx sent, tylenol given
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2115-12-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2115-12-19**] 10:04 AM
   Hydralazine - [**2115-12-19**] 10:39 PM
   Other medications:
   Acetaminophen 3. Amlodipine 4. Docusate Sodium 5. Famotidine 6.
   Furosemide 7. Furosemide
   8. Furosemide 9. Glucagon 10. Heparin 11. HydrALAzine 12. 13. Insulin
   14. Lactulose 15. Labetalol
   16. Lisinopril 17. Magnesium Sulfate 18. Miconazole Powder 2% 19.
   Morphine Sulfate 20. Nafcillin
   21. Pneumococcal Vac Polyvalent 22. Polyethylene Glycol 23. Potassium
   Chloride 24. Potassium Chloride
   25. Potassium Chloride 26. Senna 27. Sodium Chloride 0.9% Flush
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: patient minimally responsive
   Flowsheet Data as of  [**2115-12-20**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.4
C (99.4
   HR: 99 (99 - 109) bpm
   BP: 160/68(90) {135/54(75) - 170/84(102)} mmHg
   RR: 29 (24 - 36) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 164.2 kg (admission): 153 kg
   Height: 57 Inch
             Total In:
                                                                  1,890 mL
                                                                    566 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  1,710 mL
                                                                    566 mL
   Blood products:
   Total out:
                                                                  3,205 mL
                                                                    530 mL
   Urine:
                                                                  3,205 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,315 mL
                                                                     36 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.48/43/71/30/7
   PaO2 / FiO2: 89
   Physical Examination
   Gen: shallow breaths, grunt with expiration, obese
   CV: difficult heart sounds to assess but RRR nl s1/s2 no m
   Pulm: decreased air movt from ant
   Abd: +BS, soft, NTND
   Ext: edematous, venous stasis changes not new
   Labs / Radiology
   260 K/uL
   9.4 g/dL
   176 mg/dL
   1.4 mg/dL
   30 mEq/L
   3.2 mEq/L
   23 mg/dL
   112 mEq/L
   152 mEq/L
   29.7 %
   11.7 K/uL
        [image002.jpg]
                             [**2115-12-18**]  12:58 AM
                             [**2115-12-18**]  04:26 AM
                             [**2115-12-18**]  05:16 AM
                             [**2115-12-18**]  11:00 AM
                             [**2115-12-18**]  02:26 PM
                             [**2115-12-18**]  08:17 PM
                             [**2115-12-19**]  03:35 AM
                             [**2115-12-19**]  08:08 AM
                             [**2115-12-19**]  11:50 PM
                             [**2115-12-20**]  02:47 AM
   WBC
   7.1
   10.5
   11.7
   Hct
   29.6
   29.5
   29.7
   Plt
   297
   290
   260
   Cr
   1.3
   1.3
   1.1
   1.4
   TCO2
   29
   29
   30
   32
   30
   33
   Glucose
   154
   143
   155
   176
   Other labs: PT / PTT / INR:13.2/25.0/1.1, CK / CKMB /
   Troponin-T:176/4/<0.01, ALT / AST:26/24, Alk Phos / T Bili:180/0.9,
   Amylase / Lipase:29/34, Differential-Neuts:64.0 %, Band:2.0 %,
   Lymph:25.0 %, Mono:3.0 %, Eos:2.0 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.4 g/dL, LDH:193 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.5
   mg/dL
   BCx pending from [**12-13**], [**12-16**], [**12-17**], 12/3
 [**1-18**] bottle from [**12-15**] came
   back positive for GPR's,
 from [**12-13**] final negative
   Urine culture [**12-18**] GNR ~1000*
   Blood 12/1 GPC in chains
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, BENIGN
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ACIDOSIS, RESPIRATORY
 CHOLANGITIS
   65 year-old morbidly obese gentleman w/ DM2 and history of
   cholecystitis admitted for cholangitis, s/p ERCP w/ CBD stent
   placement, extraction of CBD stones and sphincterotomy and subsequent
   sepsis, currently intubated and sedated.
   .
   #. Respiratory failure with b/l pleural effusions on CXR.   Moreover,
   resp failure was likely redistribution of fluid from cholangitis/
   bacteremia, which is now improving.   Extubated yesterday with good
   post-extubation ABG.  Tolerating face tent with good oxygenation, but
   continues to be tachypneic and intermittently complains of dyspnea.
   CXR shows persistent fluid overload and possible left base
   consolidation.
   -continue to monitor I/O
   -daily lasix prn to maintain goal of 1-2L neg
   -consider Bipap at night (uses CPAP at home)
   .
   #  corneybacterium bacteremia:  Spiked through Nafcillin so may need
   more coverage with Vanc
   -f/u ID recs
   -pull CVL and place new.
   # Altered Mental Status: Most likely delirium, and felt to be related
   to prolonged sedation while intubated.  Unlikely to be metabolic
   process given normal electrolytes.   Will continue to monitor.
   -just too heavy for CT scanner plus cannot be flat
   -reasses MS and need daily
   # Hypertension: Pt cleared for POs and will transition to partial home
   regimen.
   - PO amlodipine, labetolol and lisinopril for now
   - can add home [**Last Name (un) **] if continues to be hypertensive
   .
   # SEPSIS: Hypotension now resolved, weaned off all pressors.  Likely he
   was hypotensive from sepsis from known infection from cholangitis.
   Patient is s/p ERCP w/ sphincterotomy and extraction of gallstones and
   purulent material.  Per ID, catheter tip with coag negative staph is
   likely contaminant and no need to broaden coverage.  New Cx from [**12-15**]
   pos for GPRs is likely a contaminant.  Will remove arterial line and
   monitor for further fevers.
   -- continue Nafcillin 2g q4h as per ID recs (last day [**2115-12-24**])
   -- f/u all outstanding cultures
   .
   #. [**Last Name (un) **] - Urine output now mildly worse, likely because started acei,
   likely was a combination of ATN and prerenal etiologies.
   -- will continue to trend BUN/Cr
   .
   #. CHOLANGITIS
 ERCP following, recommended repeat in 6 weeks for
   stent pull
   -F/u ERCP and surgery recs
   .
   #FEN:  Per Speech and swallow, ok for ground solids, nectar thick
   liquids. PO meds whole with puree
   #PPX: Famotidine, heparin SC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-12-12**] 05:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-12-20 11:24:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2115-12-19**] 12:00 PM
   -Patient with decreased alertness this morning
   -ABG with 7.43/48/107
   Patient with continued negative fluid balance
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2115-12-20**] 08:08 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2115-12-20**] 06:56 AM
   Heparin Sodium (Prophylaxis) - [**2115-12-20**] 08:08 AM
   Famotidine (Pepcid) - [**2115-12-20**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-12-20**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.7
C (99.8
   HR: 99 (99 - 109) bpm
   BP: 137/55(73) {90/39(52) - 172/84(102)} mmHg
   RR: 27 (26 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 164.2 kg (admission): 153 kg
   Height: 57 Inch
             Total In:
                                                                  1,890 mL
                                                                  1,312 mL
   PO:
                                                                    120 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,710 mL
                                                                  1,162 mL
   Blood products:
   Total out:
                                                                  3,205 mL
                                                                    910 mL
   Urine:
                                                                  3,205 mL
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,315 mL
                                                                    404 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.43/48/107/30/6
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   260 K/uL
   176 mg/dL
   1.4 mg/dL
   30 mEq/L
   3.2 mEq/L
   23 mg/dL
   112 mEq/L
   152 mEq/L
   29.7 %
   11.7 K/uL
        [image002.jpg]
                             [**2115-12-18**]  04:26 AM
                             [**2115-12-18**]  05:16 AM
                             [**2115-12-18**]  11:00 AM
                             [**2115-12-18**]  02:26 PM
                             [**2115-12-18**]  08:17 PM
                             [**2115-12-19**]  03:35 AM
                             [**2115-12-19**]  08:08 AM
                             [**2115-12-19**]  11:50 PM
                             [**2115-12-20**]  02:47 AM
                             [**2115-12-20**]  07:05 AM
   WBC
   7.1
   10.5
   11.7
   Hct
   29.6
   29.5
   29.7
   Plt
   297
   290
   260
   Cr
   1.3
   1.3
   1.1
   1.4
   TCO2
   29
   30
   32
   30
   33
   33
   Glucose
   154
   143
   155
   176
   Other labs: PT / PTT / INR:13.2/25.0/1.1, CK / CKMB /
   Troponin-T:176/4/<0.01, ALT / AST:26/24, Alk Phos / T Bili:180/0.9,
   Amylase / Lipase:29/34, Differential-Neuts:64.0 %, Band:2.0 %,
   Lymph:25.0 %, Mono:3.0 %, Eos:2.0 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.4 g/dL, LDH:193 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.5
   mg/dL
   Imaging: CXR-Patient with persistent LLL collapse and some improvement
   ineffusions.
   Microbiology: Corynebacterium seen on two individual blood culture
   bottles.  [**12-15**] and [**12-17**]
   Assessment and Plan
   65 yo male with admission with obstructing biliary stone and sepsis
   complicated by respiratory failure now with substantial improvement in
   sepsis and having been extubated without event 2 days ago.  He has
   returned to po intake.
   1)Sepsis-
   -Continue with antibiotics--nafcillin
   -Will continue with negative fluid balance
   -Do have concerning findings on microbiology of corynebacterium seen on
   blood cultures and patient with persistent fevers
   -Will need change of central line today
   -Will consult ID given peristent findings
   2)HYpertension-
   -Hydralazine
   -Continue with medication titration going forward
   3)Respiratory Failure-Patient with reassuring ABG findings despite
   decreased mental status
he maintains this with a RR=20 arguing against
   significant increase in metabolic demand, worsening effective
   ventilation
   -Will use [**Hospital1 **]-level at night
   -Will follow exam
   -Will continue diruesis
   -Will have to wean O2 as tolerated
   4)Altered Mental Status-
   -Likely continued delirium
   ICU Care
   Nutrition: PO diet resumed with speech and swallow
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-12-12**] 05:16 PM
will need to resite today as
   alternative access not possible at this time
   Prophylaxis:
   DVT: SQ HEparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Discussed with patient who is substantially
   somnolent
   Code status: Full code
   Disposition : ICU
   Total time spent: 33

2115-12-21 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2115-12-20**] 06:19 PM
 MULTI LUMEN - STOP [**2115-12-20**] 10:06 PM
 BLOOD CULTURED - At [**2115-12-21**] 03:37 AM
 EKG - At [**2115-12-21**] 06:00 AM
   - MS depressed in am: good ABG, did not get CT as ?if scanner could
   take him and if he could lay flat.  Tabled for future thought.
   - seen by ID: rec Vanc for corneybacterium.  Will need trough before
   4th dose
   -changed CVL to right, pulled left
   - gave D5W for hypernatremia and though still net positive at end of
   day did not give IVF or lasix since Cr still up and starting vanc and
   since able to tolerate flat positive for line, decided not to diurese
   or give fluids
   -tachycardia to 140s-150s this am: looks like afib with RVR.  Responded
   to 15 IV Metoprolol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2115-12-20**] 07:28 PM
   Nafcillin - [**2115-12-21**] 04:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2115-12-20**] 09:00 AM
   Morphine Sulfate - [**2115-12-20**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2115-12-20**] 11:05 PM
   Metoprolol - [**2115-12-21**] 06:22 AM
   Other medications:
   Acetaminophen 3. Amlodipine 4. Docusate Sodium 5. Famotidine 6.
   Furosemide 7. Glucagon
   8. Heparin 9. HydrALAzine 10. 11. Insulin 12. Lactulose 13. Labetalol
   14. Lisinopril 15. Lidocaine 1%
   16. Metoprolol Tartrate 17. Metoprolol Tartrate 18. Miconazole Powder
   2% 19. Morphine Sulfate 20. Nafcillin
   21. Pneumococcal Vac Polyvalent 22. Polyethylene Glycol 23. Potassium
   Chloride 24. Potassium Chloride
   25. Potassium Chloride 26. Senna 27. Sodium Chloride 0.9% Flush 28.
   Vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-12-21**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (98.9
   HR: 139 (84 - 139) bpm
   BP: 138/92(102) {90/39(52) - 189/92(105)} mmHg
   RR: 23 (15 - 31) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 159.1 kg (admission): 153 kg
   Height: 57 Inch
             Total In:
                                                                  3,786 mL
                                                                    270 mL
   PO:
                                                                    675 mL
             TF:
   IVF:
                                                                  3,111 mL
                                                                    270 mL
   Blood products:
   Total out:
                                                                  2,010 mL
                                                                    460 mL
   Urine:
                                                                  2,010 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,776 mL
                                                                   -190 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.43/48/107/32/6
   Physical Examination
   GEN: alert, appropriate responses, oriented X1likely
   Remained of exam deferred
   Labs / Radiology
   224 K/uL
   8.9 g/dL
   175 mg/dL
   1.3 mg/dL
   32 mEq/L
   3.1 mEq/L
   23 mg/dL
   107 mEq/L
   143 mEq/L
   28.8 %
   7.2 K/uL
        [image002.jpg]
                             [**2115-12-18**]  11:00 AM
                             [**2115-12-18**]  02:26 PM
                             [**2115-12-18**]  08:17 PM
                             [**2115-12-19**]  03:35 AM
                             [**2115-12-19**]  08:08 AM
                             [**2115-12-19**]  11:50 PM
                             [**2115-12-20**]  02:47 AM
                             [**2115-12-20**]  07:05 AM
                             [**2115-12-20**]  04:14 PM
                             [**2115-12-21**]  03:21 AM
   WBC
   10.5
   11.7
   7.2
   Hct
   29.5
   29.7
   28.8
   Plt
   290
   260
   224
   Cr
   1.3
   1.1
   1.4
   1.4
   1.3
   TCO2
   30
   32
   30
   33
   33
   Glucose
   143
   155
   176
   237
   175
   Other labs: PT / PTT / INR:13.2/25.0/1.1, CK / CKMB /
   Troponin-T:176/4/<0.01, ALT / AST:17/14, Alk Phos / T Bili:140/1.0,
   Amylase / Lipase:29/34, Differential-Neuts:71.5 %, Band:2.0 %,
   Lymph:21.6 %, Mono:3.4 %, Eos:3.3 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.4 g/dL, LDH:193 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.6
   mg/dL
   Microbiology: cdiff [**12-20**] neg
   blood 12/5,4,3,1,[**12-16**], 27
   blood 12/4 GRAM POSITIVE ROD(S) CONSISTENT WITH CORYNEBACTERIUM
   OR                                  PROPIONIBACTERIUM SPECIES
   blood 11/29 same
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, BENIGN
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ACIDOSIS, RESPIRATORY
 CHOLANGITIS
   65 year-old morbidly obese gentleman w/ DM2 and history of
   cholecystitis admitted for cholangitis, s/p ERCP w/ CBD stent
   placement, extraction of CBD stones and sphincterotomy and subsequent
   sepsis, currently intubated and sedated.
   #. Respiratory failure with b/l pleural effusions on CXR.   Moreover,
   resp failure was likely redistribution of fluid from cholangitis/
   bacteremia, which is now improving.   Tolerating bipap at night
   -ABG [**12-20**] reassuring
    -continue to monitor I/O
   - no lasix for now given low BPs
   -continue bipap at night
   -tolerated being flat off oxygen yesterday so continue to wean as
   tolerated
    #  corneybacterium and MSSA bacteremia:  now on Vanc, day 1: [**12-20**] pm
   for indeterminate course and nafcillin with planned course through
   [**12-24**].
   -Check trough before 4th dose of vanc.
   -f/u ID recs
   -CVL replaced yesterday
   #  afib: per chart, possible [**Last Name **] problem.  Resumed in afib during
   rounds
   -given additional 10mg IV metoprolol without response
   -give 500 cc bolus given hypotension to SBP 90s and give PO verapamil
   if can tolerate with ultilmate goal of rate control (can hold labetolol
   if necessary due to hypotension)
   -evaluate need for anticoagulation
   # Altered Mental Status: Most likely delirium, and felt to be related
   to prolonged sedation while intubated.  Unlikely to be metabolic
   process given normal electrolytes and improvement during course of day
   yesterday and today
   -just too heavy for CT scanner plus cannot be flat
   -reassess MS and need daily, no need for head CT now
   # Hypertension: Pt cleared for POs and better controlled on PO meds as
   of [**12-20**].
   - PO amlodipine, labetolol and lisinopril for now
   - can add home [**Last Name (un) **] if continues to be hypertensive
   # SEPSIS: Hypotension now resolved, weaned off all pressors.  Likely he
   was hypotensive from sepsis from known infection from cholangitis.
   Patient is s/p ERCP w/ sphincterotomy and extraction of gallstones and
   purulent material.  Per ID, catheter tip with coag negative staph is
   likely contaminant and no need to broaden coverage.
   -- f/u all outstanding cultures
   -- arterial line pulled [**12-19**], CVL changed [**12-20**]
   #. [**Last Name (un) **]
 Cr stable at 1.3, likely because started acei, likely was a
   combination of ATN and prerenal etiologies.
   -- will continue to trend BUN/Cr
   .
   #. CHOLANGITIS
 ERCP following, recommended repeat in 6 weeks for
   stent pull
   -F/u ERCP and surgery recs
   . #FEN:  Per Speech and swallow, ok for ground solids, nectar thick
   liquids. PO meds whole with puree
   #PPX: Famotidine, heparin SC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-12-20**] 06:19 PM
   Prophylaxis:
   DVT: SQ UF Heparin: d/c as starting coumadin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now due to high level nursing care, ?c/o tomorrow
   once rate controlled and BP controlled

2115-12-21 10:19:00 Physician Attending Progress Note
Chief Complaint: resp failure, tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65yo M with morbid obesity s/p perc chole tube 1 month ago admitted
   with cholangitis s/p ERCP.  Was intubated due to volume overload, body
   habitus, etc. but extubated 12.02 and resp status has remained
   adequate.  On nafcillin for MSSA bacteremia but grew corynebacteria
   from blood cultures so changed to vancomycin [**12-20**].  New right IJ
   central line placed 12.04.  He had altered mental status, probably
   delirium.
   Major issues have been labile blood pressure, though now improved,
   waxing and [**Doctor Last Name 226**] mental status, tachycardia.
   24 Hour Events:
 MULTI LUMEN - START [**2115-12-20**] 06:19 PM
 MULTI LUMEN - STOP [**2115-12-20**] 10:06 PM
 BLOOD CULTURED - At [**2115-12-21**] 03:37 AM
 EKG - At [**2115-12-21**] 06:00 AM
   Sat 93% on RA.
   Central line changed (RIJ placed, LIJ removed) for + blood cx.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2115-12-21**] 08:00 AM
   Nafcillin - [**2115-12-21**] 08:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2115-12-20**] 08:00 PM
   Famotidine (Pepcid) - [**2115-12-21**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2115-12-21**] 08:00 AM
   Metoprolol - [**2115-12-21**] 09:18 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: [**3-20**] MildPain location: back, general discomfort
   Flowsheet Data as of  [**2115-12-21**] 10:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 35.9
C (96.7
   HR: 134 (84 - 139) bpm
   BP: 109/75(82) {90/39(52) - 189/92(105)} mmHg
   RR: 23 (15 - 31) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 159.1 kg (admission): 153 kg
   Height: 57 Inch
             Total In:
                                                                  3,786 mL
                                                                    738 mL
   PO:
                                                                    675 mL
             TF:
   IVF:
                                                                  3,111 mL
                                                                    738 mL
   Blood products:
   Total out:
                                                                  2,010 mL
                                                                    630 mL
   Urine:
                                                                  2,010 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,776 mL
                                                                    108 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///32/
   Physical Examination
   General Appearance: No acute distress, Morbidly obese.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: distant HS, irreg irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Trace LE edema, 1+ pitting in hands bilat
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, Movement: Purposeful, all ext, Tone:
   Normal, Thought he was in "palm beach." But also had appropriate
   responses to questions.
   Labs / Radiology
   8.9 g/dL
   224 K/uL
   175 mg/dL
   1.3 mg/dL
   32 mEq/L
   3.1 mEq/L
   23 mg/dL
   107 mEq/L
   143 mEq/L
   28.8 %
   7.2 K/uL
        [image002.jpg]
                             [**2115-12-18**]  11:00 AM
                             [**2115-12-18**]  02:26 PM
                             [**2115-12-18**]  08:17 PM
                             [**2115-12-19**]  03:35 AM
                             [**2115-12-19**]  08:08 AM
                             [**2115-12-19**]  11:50 PM
                             [**2115-12-20**]  02:47 AM
                             [**2115-12-20**]  07:05 AM
                             [**2115-12-20**]  04:14 PM
                             [**2115-12-21**]  03:21 AM
   WBC
   10.5
   11.7
   7.2
   Hct
   29.5
   29.7
   28.8
   Plt
   290
   260
   224
   Cr
   1.3
   1.1
   1.4
   1.4
   1.3
   TCO2
   30
   32
   30
   33
   33
   Glucose
   143
   155
   176
   237
   175
   Other labs: PT / PTT / INR:13.2/25.0/1.1, CK / CKMB /
   Troponin-T:176/4/<0.01, ALT / AST:17/14, Alk Phos / T Bili:140/1.0,
   Amylase / Lipase:29/34, Differential-Neuts:71.5 %, Band:2.0 %,
   Lymph:21.6 %, Mono:3.4 %, Eos:3.3 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.4 g/dL, LDH:193 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.6
   mg/dL
   Microbiology: 2 pos bcx [**12-15**], [**12-20**] corynebacterium.
   Assessment and Plan
   MICU course c/b respiratory failure, cholangitis ERCP, volume overload,
   renal failure.
   Currently major issues are delirium, afib with RVR, GPC bacteremia.
   Tachycardia, afib with RVR. 7L+ LOS, lost ~ 1-2L diuresis per day.
   Starting PO beta blocker.
   Try 500cc NS bolus.
   Delirium. Improved today (according to MICU team).
   Holding off on head CT.
   Avoid benzos.
   Renal fctn improved.
   Vanc/naf for bacteremia which occured while on naf.
   ICU Care
   Nutrition:
   Comments: PO diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-12-21**] 08:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt, starting coumadin)
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2115-12-22 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2115-12-21**] 08:00 AM
   Line placed [**12-20**]
 MULTI LUMEN - STOP [**2115-12-21**] 08:52 AM
 EKG - At [**2115-12-22**] 06:31 AM
   - Had Afib with RVR in the am, given IV beta blocker in the am,
   followed by po metoprolol 25mg TID, converted to sinus with rates in
   the 90's; started heparin gtt for bridge to Coumadin
   - BPs high with SBP's of 210's, gave 20mg IV hydral, then started 25mg
   po hydral q6h, then still way uncontrolled and so started labetalol
   drip and stoped po metoprolol
   - Gave 2mg IV x2 IV Haldol last night, another 2mg IV this am with good
   effect
   - Repleted K and gave free water for hypernatremia
   - Ordered for vanc trough in the am
   - ICU consent not signed, tried to ask patient about family/friends but
   he just wanted water
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2115-12-21**] 08:07 PM
   Nafcillin - [**2115-12-22**] 03:38 AM
   Infusions:
   Heparin Sodium - 1,700 units/hour
   Labetalol - 2.5 mg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2115-12-21**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2115-12-21**] 08:00 AM
   Metoprolol - [**2115-12-21**] 09:40 AM
   Heparin Sodium - [**2115-12-21**] 06:58 PM
   Hydralazine - [**2115-12-21**] 09:34 PM
   Haloperidol (Haldol) - [**2115-12-22**] 06:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-12-22**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.1
   HR: 89 (84 - 134) bpm, 80-90s since converting to sinus
   BP: 167/87(103) {108/65 - 212/125(131)} mmHg
   RR: 21 (14 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 159.1 kg (admission): 153 kg
   Height: 57 Inch
             Total In:
                                                                  3,710 mL
                                                                  1,133 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                  2,870 mL
                                                                  1,133 mL
   Blood products:
   Total out:
                                                                  1,425 mL
                                                                    760 mL
   Urine:
                                                                  1,425 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,285 mL
                                                                    373 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula at 2L
   SpO2: 92%
   ABG: ///25/
   Physical Examination
   Gen: Somnolent, Oriented to person only, not responding appropriately
   to questions
   CV: RRR, nl S1, S2, no m/r/g, distant heart sounds
   Pulm: Breath sounds diminished on anterior exam (pt snoring during
   exam, so difficult to assess)
   Abd: Soft, obese, grossly distended, +BS
   Extrem: 1+ peripheral edema in all four extremities, 2+ pulses
   throughout
   Labs / Radiology
   231 K/uL
   8.8 g/dL
   238 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.6 mEq/L
   21 mg/dL
   108 mEq/L
   142 mEq/L
   27.2 %
   6.5 K/uL
        [image002.jpg]
                             [**2115-12-18**]  08:17 PM
                             [**2115-12-19**]  03:35 AM
                             [**2115-12-19**]  08:08 AM
                             [**2115-12-19**]  11:50 PM
                             [**2115-12-20**]  02:47 AM
                             [**2115-12-20**]  07:05 AM
                             [**2115-12-20**]  04:14 PM
                             [**2115-12-21**]  03:21 AM
                             [**2115-12-21**]  05:16 PM
                             [**2115-12-22**]  05:44 AM
   WBC
   10.5
   11.7
   7.2
   6.5
   Hct
   29.5
   29.7
   28.8
   27.2
   Plt
   290
   260
   224
   231
   Cr
   1.1
   1.4
   1.4
   1.3
   1.4
   1.2
   TCO2
   32
   30
   33
   33
   Glucose
   155
   176
   237
   175
   192
   238
   Other labs: PT / PTT / INR: 1.6  , CK / CKMB / Troponin-T:176/4/<0.01,
   ALT / AST:18/21, Alk Phos / T Bili:129/1.0, Amylase / Lipase:29/34,
   Differential-Neuts:71.5 %, Band:2.0 %, Lymph:21.6 %, Mono:3.4 %,
   Eos:3.3 %, Lactic Acid:0.7 mmol/L, Albumin:2.4 g/dL, LDH:193 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Vanc trough
   BCx [**12-15**] and [**12-17**] corynebacterium species
   BCx [**12-17**], [**12-19**], [**12-20**], [**12-20**] pending
   C diff neg x 2
U Cx [**12-18**] GRAM NEGATIVE ROD(S).   ~1000/ML.
No new imaging
   Assessment and Plan
   65 year-old morbidly obese gentleman w/ DM2 and history of
   cholecystitis admitted for cholangitis, s/p ERCP w/ CBD stent
   placement, extraction of CBD stones and sphincterotomy and subsequent
   sepsis.  Intubated due to volume overload and body habitus and
   extubated [**12-18**].  Now with altered mental status, corynebacteria
   bacteremia, new A fib with RVR.
   # Altered Mental Status: Most likely delirium, and felt to be related
   to prolonged sedation while intubated.  Unlikely to be metabolic
   process given normal electrolytes and improvement during course of day
   yesterday.  This AM, decreased interaction also felt to be secondary to
   oversedation with haldol overnight and this AM.
   -just too heavy for CT scanner plus cannot be flat
   -reassess MS and need daily, no need for head CT now
   -if agitated, will consider seroquel
   .
   #  corneybacterium and MSSA bacteremia:  now on Vanc, day 1: [**12-20**] pm
   for likely 2 week course and nafcillin with planned course through
   [**12-24**].
   -Vanc trough this AM slightly high 21.4 , decreased dose to 1000 q12h.
   -Check vanc trough in AM
   -f/u ID recs
   -CVL replaced [**12-20**]
   .
   #  afib: per chart, possible [**Last Name **] problem.  Converted to Sinus yesterday
   after receiving IV and PO metoprolol.
   - heparin gtt and coumadin started yesterday, but stopped this AM after
   further chart review; pt with poor medical compliance and history of
   falls, felt to be poor coumadin candidate
   - will stop labetalol drip and continue po metoprol for rate control
   .
   #. Respiratory failure with b/l pleural effusions on CXR.   Moreover,
   resp failure was likely redistribution of fluid from cholangitis/
   bacteremia, which is now improving.   Tolerating bipap at night.
   -ABG [**12-20**] reassuring
    -continue to monitor I/O
   - consider lasix prn for respiratory distress
   -continue bipap at night for likely OSA
   -tolerated being flat off oxygen yesterday so continue to wean as
   tolerated
   .
   # Hypertension: Pt cleared for POs and better controlled on PO meds as
   of [**12-20**].
   - PO amlodipine, lisinopril,  metoprolol for now
   - will add home [**Last Name (un) **] this AM (olmesartan) given improved renal fct
   .
   # SEPSIS: Hypotension now resolved, weaned off all pressors.  Likely he
   was hypotensive from sepsis from known infection from cholangitis.
   Patient is s/p ERCP w/ sphincterotomy and extraction of gallstones and
   purulent material.  Per ID, catheter tip with coag negative staph is
   likely contaminant and no need to broaden coverage.
   -- f/u all outstanding cultures
   -- arterial line pulled [**12-19**], CVL changed [**12-20**]
   .
   #. [**Last Name (un) **]
 Cr stable at 1.2, likely because started acei, likely was a
   combination of ATN and prerenal etiologies.
   -- will continue to trend BUN/Cr
   .
    #. CHOLANGITIS
 ERCP following, recommended repeat in 6 weeks for
   stent pull
   -F/u ERCP and surgery recs
   . #FEN:  Per Speech and swallow, ok for ground solids, nectar thick
   liquids. PO meds whole with puree
   ICU Care
   Nutrition: ground solids, nectar thick liquids
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-12-21**] 08:00 AM
   Prophylaxis:
   DVT: heparin gtt, coumadin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: [**Hospital Unit Name 4**] for now

2115-12-22 12:47:00 Physician Attending Progress Note
Chief Complaint: afib with RVR,
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65yo M with morbid obesity s/p perc chole tube 1 month ago admitted
   with cholangitis s/p ERCP.  Was intubated due to volume overload, body
   habitus, etc. but extubated 12.02 and resp status has remained
   adequate.  On nafcillin for MSSA bacteremia but grew corynebacteria
   from blood cultures so changed to vancomycin [**12-20**].  New right IJ
   central line placed 12.04.  He had altered mental status, probably
   delirium.
   Major issues have been labile blood pressure, though now improved,
   waxing and [**Doctor Last Name 226**] mental status, tachycardia.
   24 Hour Events:
 MULTI LUMEN - START [**2115-12-21**] 08:00 AM
   Line placed [**12-20**]
 MULTI LUMEN - STOP [**2115-12-21**] 08:52 AM
 EKG - At [**2115-12-22**] 06:31 AM
   Converted to sinus yesterday afternoon.
   Agitated overnight, received Haldol 2mg x 2 with good result-- no
   longer agitated. Sleepy but easily aroused.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2115-12-22**] 07:30 AM
   Vancomycin - [**2115-12-22**] 11:15 AM
   Infusions:
   Heparin Sodium - 1,700 units/hour
   Other ICU medications:
   Heparin Sodium - [**2115-12-21**] 06:58 PM
   Hydralazine - [**2115-12-21**] 09:34 PM
   Haloperidol (Haldol) - [**2115-12-22**] 06:12 AM
   Famotidine (Pepcid) - [**2115-12-22**] 07:59 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-12-22**] 12:46 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.6
   HR: 74 (61 - 98) bpm
   BP: 126/68(82) {126/59(77) - 212/125(131)} mmHg
   RR: 17 (17 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 159.1 kg (admission): 153 kg
   Height: 57 Inch
             Total In:
                                                                  3,710 mL
                                                                  1,947 mL
   PO:
                                                                    840 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  2,870 mL
                                                                  1,767 mL
   Blood products:
   Total out:
                                                                  1,425 mL
                                                                  1,145 mL
   Urine:
                                                                  1,425 mL
                                                                  1,145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,285 mL
                                                                    802 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress, Morbidly obese.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: distant HS, irreg irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Trace LE edema, 1+ pitting in hands bilat
   Skin:  Warm, No(t) Rash:
   Neurologic: Lethargic. Not following commands. Does not respond to
   questions. Movement: Purposeful, all ext. Was much more alert and
   interactive yesterday during my exam.
   Labs / Radiology
   8.8 g/dL
   231 K/uL
   238 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.6 mEq/L
   21 mg/dL
   108 mEq/L
   142 mEq/L
   27.2 %
   6.5 K/uL
        [image002.jpg]
                             [**2115-12-18**]  08:17 PM
                             [**2115-12-19**]  03:35 AM
                             [**2115-12-19**]  08:08 AM
                             [**2115-12-19**]  11:50 PM
                             [**2115-12-20**]  02:47 AM
                             [**2115-12-20**]  07:05 AM
                             [**2115-12-20**]  04:14 PM
                             [**2115-12-21**]  03:21 AM
                             [**2115-12-21**]  05:16 PM
                             [**2115-12-22**]  05:44 AM
   WBC
   10.5
   11.7
   7.2
   6.5
   Hct
   29.5
   29.7
   28.8
   27.2
   Plt
   290
   260
   224
   231
   Cr
   1.1
   1.4
   1.4
   1.3
   1.4
   1.2
   TCO2
   32
   30
   33
   33
   Glucose
   155
   176
   237
   175
   192
   238
   Other labs: PT / PTT / INR:18.1/69.8/1.6, CK / CKMB /
   Troponin-T:176/4/<0.01, ALT / AST:18/21, Alk Phos / T Bili:129/1.0,
   Amylase / Lipase:29/34, Differential-Neuts:71.5 %, Band:2.0 %,
   Lymph:21.6 %, Mono:3.4 %, Eos:3.3 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.4 g/dL, LDH:193 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.9
   mg/dL
   Blood cx [**12-15**] and [**12-17**] grew corynebacterium, drawn from a-line which
   was removed.
   Assessment and Plan
   Post-ERCP sepsis. MICU course c/b respiratory failure, volume overload,
   renal failure.
   Currently major issues are delirium, afib with RVR, Corynebacterium
   bacteremia.
   Afib, afib with RVR. In sinus since yest afternoon. Started heparin and
   coumadin, but further discussion with ICU team reveals pt is a fall
   risk (apparently wheelchair bound at baseline, transfers on his own in
   his house by holding on to walls, furniture) and is noncompliant with
   medical visits, insulin, CPAP so I think he is unlikely to achieve safe
   dosing on coumadin.
   HTN Back on ACE-I, will restart losartan and continue beta blocker and
   ccb.
   Delirium. Improved today (according to MICU team).
   Probably got too much Haldol overnight. Recheck later today. Holding
   off on head CT because I think this is most likely combination of meds
   and ICU psychosis, and because he is unlikely to fit in the scanner,
   but would consider if not improved within a few days.
   Renal fctn improved.
   Corynebacterium bacteremia: Vanc/naf for which occured while on naf. 2
   wk vanc for corynebacterium. 2 wk course naf for MSSA bacteremia (ends
   [**12-24**]).
   ICU Care
   Nutrition:
   Comments: PO diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-12-21**] 08:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt, coumadin started for
   pafib)
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2115-12-23 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2115-12-22**] 01:27 PM
 PICC LINE - START [**2115-12-22**] 03:50 PM
   placed by iv rn at bedside.
 MULTI LUMEN - STOP [**2115-12-22**] 09:23 PM
   Line placed [**12-20**]
   -somnolent in AM, felt to be [**2-18**] too much haldol
   -hypertensive to 200s -> gave 20 mg IV hydral with good effect x 2
   restarted home dose olmesartan
   -PICC placed, pulled CVL
   -d/c'd heparin and coumadin b/c poor candidate
   - f/u vanc trough in AM
   -given dose of PO seroquel at MN for delirium/agitation, haldol IV 2 mg
   x 2
   -on cpap overnight
   -HTN this am, got Lopressor early.
   -30 of Hydral this am for SBPS in 220s
   -mixing labetolol gtt
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2115-12-22**] 07:54 PM
   Nafcillin - [**2115-12-23**] 04:04 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2115-12-22**] 07:18 PM
   Hydralazine - [**2115-12-23**] 02:00 AM
   Haloperidol (Haldol) - [**2115-12-23**] 05:06 AM
   Other medications:
   Acetaminophen 4. Amlodipine 5. Docusate Sodium 6. Famotidine 7.
   Glucagon 8. Haloperidol
   9. Haloperidol 10. Heparin Flush (10 units/ml) 11. HydrALAzine 12.
   HydrALAzine 13. HydrALAzine 14.
   15. Insulin 16. Lactulose 17. Labetalol 18. Lisinopril 19. Metoprolol
   Tartrate 20. Miconazole Powder 2%
   21. Morphine Sulfate 22. Nafcillin 23. Olmesartan 24. Pneumococcal Vac
   Polyvalent 25. Polyethylene Glycol
   26. Potassium Chloride 27. Potassium Chloride 28. Quetiapine Fumarate
   29. Senna 30. Sodium Chloride 0.9% Flush
   31. Vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-12-23**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 81 (61 - 89) bpm
   BP: 204/65(100) {126/55(77) - 210/102(119)} mmHg
   RR: 20 (12 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 159.1 kg (admission): 153 kg
   Height: 57 Inch
             Total In:
                                                                  2,838 mL
                                                                    270 mL
   PO:
                                                                    540 mL
             TF:
   IVF:
                                                                  2,298 mL
                                                                    270 mL
   Blood products:
   Total out:
                                                                  1,875 mL
                                                                    740 mL
   Urine:
                                                                  1,875 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    963 mL
                                                                   -470 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   Gen: NAD, alert OX1, inappropriate sexual remaks
   Otherwise not examined
   Labs / Radiology
   240 K/uL
   8.8 g/dL
   165 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.2 mEq/L
   17 mg/dL
   107 mEq/L
   141 mEq/L
   27.5 %
   6.3 K/uL
        [image002.jpg]
                             [**2115-12-19**]  03:35 AM
                             [**2115-12-19**]  08:08 AM
                             [**2115-12-19**]  11:50 PM
                             [**2115-12-20**]  02:47 AM
                             [**2115-12-20**]  07:05 AM
                             [**2115-12-20**]  04:14 PM
                             [**2115-12-21**]  03:21 AM
                             [**2115-12-21**]  05:16 PM
                             [**2115-12-22**]  05:44 AM
                             [**2115-12-23**]  04:56 AM
   WBC
   10.5
   11.7
   7.2
   6.5
   6.3
   Hct
   29.5
   29.7
   28.8
   27.2
   27.5
   Plt
   290
   260
   224
   231
   240
   Cr
   1.1
   1.4
   1.4
   1.3
   1.4
   1.2
   1.2
   TCO2
   30
   33
   33
   Glucose
   155
   176
   237
   175
   192
   238
   165
   Other labs: PT / PTT / INR:26.4/32.0/2.6, CK / CKMB /
   Troponin-T:176/4/<0.01, ALT / AST:18/21, Alk Phos / T Bili:129/1.0,
   Amylase / Lipase:29/34, Differential-Neuts:71.5 %, Band:2.0 %,
   Lymph:21.6 %, Mono:3.4 %, Eos:3.3 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.4 g/dL, LDH:193 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.7
   mg/dL
   Microbiology: cdiff [**12-22**] pending
   cdiff [**12-21**] neg
   cdiff [**12-20**] neg
   Urine [**12-22**] pending
   urine [**12-18**] GNR (known)
   blood [**12-21**], [**12-20**], [**12-19**], [**12-17**] pending
   [**1-18**] on [**12-17**] CORYNEBACTERIUM SPECIES (DIPHTHEROIDS)
   blood 11/30 final negative (new)
   Assessment and Plan
 DELIRIUM / CONFUSION
 ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, BENIGN
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ACIDOSIS, RESPIRATORY
 CHOLANGITIS
   65 year-old morbidly obese gentleman w/ DM2 and history of
   cholecystitis admitted for cholangitis, s/p ERCP w/ CBD stent
   placement, extraction of CBD stones and sphincterotomy and subsequent
   sepsis.  Intubated due to volume overload and body habitus and
   extubated [**12-18**].  Now with altered mental status, corynebacteria
   bacteremia, in and out of afib with RVR..
   # Altered Mental Status: Most likely delirium, and felt to be related
   to prolonged sedation while intubated.  Unlikely to be metabolic
   process given normal electrolytes and improvement during course of day
   yesterday.  This AM, decreased interaction also felt to be secondary to
   oversedation with haldol overnight and this AM.
   -CT head, TSH, RPR, B12/folate
   - if w/u neg consider neuro consult and/or EEG
   -EKG shows baseline mildly prolonged QTc
   -haldol prn
   .
   #  corneybacterium and MSSA bacteremia:  now on Vanc, day 1: [**12-20**] pm
   for likely 2 week course and nafcillin with planned course through
   [**12-24**].
   -Vanc trough this AM high at 25, decreased dose to 1000 q12h yesterday.
   Continue current dose and recheck trough tomorrow am
   -f/u ID recs
   .
   #  afib: per chart, possible [**Last Name **] problem.  Now in sinus
   - heparin gtt and coumadin started 2 days ago, but stopped yesterday
   after further chart review; pt with poor medical compliance and history
   of falls, felt to be poor coumadin candidate
   - cont Metoprolol
   - start Heparin SC tomorrow
   .
   #. Respiratory failure with b/l pleural effusions on CXR.   Moreover,
   resp failure was likely redistribution of fluid from cholangitis/
   bacteremia, which is now improving.   Tolerating bipap at night.  On RA
   during day.
   -ABG [**12-20**] reassuring
    -continue to monitor I/O
   - restart home lasix
   -continue bipap at night for likely OSA
   .
   # Hypertension: Pt cleared for POs and better controlled on PO meds
   though still has episodes to 220s SBP.
   - PO amlodipine, lisinopril,  metoprolol, olmesartan for now
   - increase Metoprolol to 50 TID, and restart home lasix
   - consider standing hydral PO if above measures do not work
   .
   # SEPSIS: Hypotension now resolved, weaned off all pressors.  Likely he
   was hypotensive from sepsis from known infection from cholangitis.
   Patient is s/p ERCP w/ sphincterotomy and extraction of gallstones and
   purulent material.  Per ID, catheter tip with coag negative staph is
   likely contaminant and no need to broaden coverage.
   -- f/u all outstanding cultures
   -- arterial line pulled [**12-19**], CVL changed [**12-20**], and pulled [**12-22**]
   .
   #. [**Last Name (un) **]
 Cr improving, likely was a combination of ATN and prerenal
   etiologies.
   - will continue to trend BUN/Cr
   - keep vanc at current dose
   .
    #. CHOLANGITIS
 ERCP following, recommended repeat in 6 weeks for
   stent pull
   -F/u ERCP and surgery recs
   . #FEN:  Per Speech and swallow, ok for ground solids, nectar thick
   liquids. PO meds whole with puree
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2115-12-22**] 03:50 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, INR 2.6)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Case Management consult- may be dispo from ICU given
   nursing need

2115-12-24 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -decided for delerium w/u given lack of improvement, apparently SW from
   outside says usually oX3 at baseline
   -added furosemide, increased metoprolol
   -CT head read: no acute process, global parenchymal loss
   -TSH, folate, B12 nl; RPR pending
   -consider consult neuro/EEG in am
   -aggitated: responded to PO Haldol, gave extra dose in pm
   -started Cipro for UTI, put in for repeat UA/Uctx
   -case management notified
   -continue nafcillin until 12/9 per ID
   -note: check EKG in the am to aval for QTc changes
   numbers from his cell:
   [**Telephone/Fax (3) 10404**] ([**First Name4 (NamePattern1) 38**] [**Last Name (NamePattern1) 10405**], NP)
   [**Telephone/Fax (2) 10406**] (pt called [**12-8**])
   [**Telephone/Fax (1) 10407**] (3x)
   -given 5mg PO vitamin K for hematuria, large bruise right abd
   -afib with RVR at 5am, got 20mg IV lopressor, dilt 10mg then 20mg IV
   -carotid massage brought HR to 120s transiently
   -EKG with ?aflutter
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2115-12-23**] 08:04 PM
   Nafcillin - [**2115-12-24**] 02:25 AM
   Infusions:
   Other ICU medications:
   Other medications:
   1000 mL NS 4. Acetaminophen 5. Amlodipine 6. Ciprofloxacin HCl 7.
   Diltiazem 8. Diltiazem
   9. Diltiazem 10. Diltiazem 11. Docusate Sodium 12. Famotidine 13.
   Furosemide 14. Glucagon 15. Haloperidol
   16. Haloperidol 17. Haloperidol 18. Heparin Flush (10 units/ml) 19. 20.
   Insulin 21. Lactulose
   22. Lisinopril 23. Magnesium Sulfate 24. Metoprolol Tartrate 25.
   Metoprolol Tartrate 26. Metoprolol Tartrate
   27. Miconazole Powder 2% 28. Morphine Sulfate 29. Nafcillin 30.
   Olmesartan 31. Phytonadione 32. Pneumococcal Vac Polyvalent
   33. Polyethylene Glycol 34. Potassium Chloride 35. Potassium Chloride
   (Powder) 36. Senna 37. Sodium Chloride 0.9% Flush
   38. Vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-12-24**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.9
C (96.7
   HR: 95 (72 - 99) bpm
   BP: 195/111(127) {137/50(87) - 216/120(147)} mmHg
   RR: 25 (14 - 30) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 142.2 kg (admission): 153 kg
   Height: 57 Inch
             Total In:
                                                                  1,610 mL
                                                                    594 mL
   PO:
                                                                    120 mL
                                                                    420 mL
   TF:
   IVF:
                                                                  1,490 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  3,965 mL
                                                                  1,410 mL
   Urine:
                                                                  3,965 mL
                                                                  1,410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,355 mL
                                                                   -816 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///30/
   Physical Examination
   Gen: NAD, alert, ox1 only
   CV: distant sounds
   Pulm: distant but mild end inspir wheeze RU lung field from anterior
   Abd: +BS, soft NTND
   Ext: no edema
   Labs / Radiology
   242 K/uL
   9.5 g/dL
   173 mg/dL
   1.3 mg/dL
   30 mEq/L
   3.2 mEq/L
   15 mg/dL
   105 mEq/L
   143 mEq/L
   29.0 %
   7.1 K/uL
        [image002.jpg]
                             [**2115-12-19**]  08:08 AM
                             [**2115-12-19**]  11:50 PM
                             [**2115-12-20**]  02:47 AM
                             [**2115-12-20**]  07:05 AM
                             [**2115-12-20**]  04:14 PM
                             [**2115-12-21**]  03:21 AM
                             [**2115-12-21**]  05:16 PM
                             [**2115-12-22**]  05:44 AM
                             [**2115-12-23**]  04:56 AM
                             [**2115-12-24**]  05:40 AM
   WBC
   11.7
   7.2
   6.5
   6.3
   7.1
   Hct
   29.7
   28.8
   27.2
   27.5
   29.0
   Plt
   [**Telephone/Fax (3) 10408**]40
   242
   Cr
   1.4
   1.4
   1.3
   1.4
   1.2
   1.2
   1.3
   TCO2
   30
   33
   33
   Glucose
   176
   237
   175
   192
   238
   165
   173
   Other labs: PT / PTT / INR:27.6/36.4/2.7, CK / CKMB /
   Troponin-T:176/4/<0.01, ALT / AST:23/25, Alk Phos / T Bili:128/1.0,
   Amylase / Lipase:32/47, Differential-Neuts:71.5 %, Band:2.0 %,
   Lymph:21.6 %, Mono:3.4 %, Eos:3.3 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.4 g/dL, LDH:193 IU/L, Ca++:8.8 mg/dL, Mg++:1.6 mg/dL, PO4:3.3
   mg/dL
   Urine ctx [**12-23**] pending
   RPR [**12-23**] NR
   Stool [**12-22**] neg cdiff
   [**12-22**] urine ctx neg
   [**12-21**] stool cdiff neg
   [**12-20**] stool cdiff neg
   Blood 12/5,4,3 pending
   Urine [**12-18**] GNR
   [**12-17**]
 final neg, other
 corynebacterium
   Assessment and Plan
 DELIRIUM / CONFUSION
 ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, BENIGN
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ACIDOSIS, RESPIRATORY
 CHOLANGITIS
   65 year-old morbidly obese gentleman w/ DM2 and history of
   cholecystitis admitted for cholangitis, s/p ERCP w/ CBD stent
   placement, extraction of CBD stones and sphincterotomy and subsequent
   sepsis.  Intubated due to volume overload and body habitus and
   extubated [**12-18**].  Now with altered mental status, corynebacteria
   bacteremia, in and out of afib/aflutter with RVR.
   #  afib: per chart, possible [**Last Name **] problem.  In and out of sinus.
   Heparin gtt and coumadin started 3 days ago, but stopped 2 days ago
   after further chart review; pt with poor medical compliance and history
   of falls, felt to be poor coumadin candidate.  Currently poor rate
   control.
   -continue dilt gtt, start heparin gtt
   -PO Metoprolol
   - 1L NS given this am given rapid diuresis
   -if still with HR 140s at end of rounds, would consider amiodarone for
   chemical cardioversion
    # Altered Mental Status: Most likely delirium, and felt to be related
   to prolonged sedation while intubated.  Unlikely to be metabolic
   process given normal electrolytes.  CT head, TSH, RPR, B12/folate
   negative.
   - consider neuro consult and EEG
   -contact patient
s phone numbers from cell to determine baseline
   -EKG shows baseline mildly prolonged QTc
   -haldol prn
   #  corneybacterium and MSSA bacteremia:  now on Vanc, day 1: [**12-20**] pm
   for likely 2 week course and nafcillin with planned course through
   [**12-25**]/
   -Vanc trough this AM
   -f/u ID recs
   # elevated INR: could be indication of early DIC as only received 1
   dose of coumadin
   -consider DIC panel, LFTs
   #. Respiratory failure with b/l pleural effusions on CXR.   Moreover,
   resp failure was likely redistribution of fluid from cholangitis/
   bacteremia, which is now improving.   Tolerating bipap at night.  On RA
   during day.
    -continue to monitor I/O
   - hold lasix for now given rapid diuresis
   - CXR now
   -continue bipap at night for likely OSA
   # Hypertension: Pt cleared for POs and better controlled on PO meds
   though still has episodes to 220s SBP.
   - PO amlodipine, lisinopril,  metoprolol, olmesartan, lasix for now
   - consider standing hydral PO if above measures do not work
   # SEPSIS: Hypotension now resolved, weaned off all pressors.  Likely he
   was hypotensive from sepsis from known infection from cholangitis.
   Patient is s/p ERCP w/ sphincterotomy and extraction of gallstones and
   purulent material.  Per ID, catheter tip with coag negative staph is
   likely contaminant and no need to broaden coverage.
    -- f/u all outstanding cultures
   -- arterial line pulled [**12-19**], CVL changed [**12-20**], and pulled [**12-22**]
    #. [**Last Name (un) **]
 Cr stable, likely was a combination of ATN and prerenal
   etiologies.
   - will continue to trend BUN/Cr
   - keep vanc at current dose
    #. CHOLANGITIS
 ERCP following, recommended repeat in 6 weeks for
   stent pull
   -F/u ERCP and surgery recs
    #FEN:  Per Speech and swallow, ok for ground solids, think liquids. PO
   meds whole with puree
   ICU Care
   Nutrition:
   Comments: diet
   Glycemic Control:
   Lines:
   PICC Line - [**2115-12-22**] 03:50 PM
   Prophylaxis:
   DVT: (INR 2.7)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Patient does not have ICU consent in chart.  Multiple attempts have
   been made to track down family or friends to serve as health care
   proxy.  Have spoken with his primary care providers who confirm that he
   does not have a health care proxy.  [**Name (NI) **] management has also contact[**Name (NI) **]
   his previous residence who confirmed he had no family and friends that
   could play this role.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3846**] [**Last Name (NamePattern1) 359**], MD
   on:[**2115-12-24**] 17:26 ------

2115-12-25 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2115-12-24**] 08:06 AM
 EKG - At [**2115-12-24**] 10:09 AM
   - Started on amiodarone load with drip for Aflutter, converted to sinus
   rhythm at 530pm, Cardiology consulted prior to conversion, will see in
   am
   - Complained of SOB, ABG showed 7.49/37/86/29/4, gave 20mg IV Lasix for
   volume overload as felt chest xray looked like pulmonary edema
   - Case management will start screening when PT evaluates him, have
   ordered
   - Neuro recs as of 12am (note still unsigned): 1.  Continue treatment
   of infection as above. 2.  Avoid psychotropic drugs. 3.  Brain MRI.
   - Has had high blood sugars, added 6 units NPH at night and adjusted
   sliding scale
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2115-12-24**] 07:33 PM
   Nafcillin - [**2115-12-25**] 05:50 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Diltiazem - [**2115-12-24**] 07:05 AM
   Amiodarone - [**2115-12-24**] 01:20 PM
   Furosemide (Lasix) - [**2115-12-25**] 12:38 AM
   Other medications:
   Acetaminophen 4. Amlodipine 5. Amiodarone 6. Amiodarone 7.
   Ciprofloxacin HCl 8. Diltiazem
   9. Docusate Sodium 10. Famotidine 11. Furosemide 12. Furosemide 13.
   Glucagon 14. Haloperidol 15. Heparin Flush (10 units/ml)
   16. 17. Insulin 18. Lactulose 19. Lisinopril 20. Metoprolol Tartrate
   21. Miconazole Powder 2%
   22. Morphine Sulfate 23. Nafcillin 24. Olmesartan 25. Pneumococcal Vac
   Polyvalent 26. Polyethylene Glycol
   27. Potassium Chloride 28. Potassium Chloride 29. Potassium Chloride
   30. Senna 31. Sodium Chloride 0.9% Flush
   32. Thiamine 33. Vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-12-25**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 75 (56 - 147) bpm
   BP: 119/65(77) {108/25(51) - 190/133(137)} mmHg
   RR: 22 (18 - 44) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 166.5 kg (admission): 153 kg
   Height: 57 Inch
             Total In:
                                                                  3,520 mL
                                                                    567 mL
   PO:
                                                                    900 mL
             TF:
   IVF:
                                                                  2,500 mL
                                                                    447 mL
   Blood products:
   Total out:
                                                                  5,180 mL
                                                                  1,345 mL
   Urine:
                                                                  5,180 mL
                                                                  1,345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,660 mL
                                                                   -778 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, bipap 12/5, 2L
   SpO2: 96%
   ABG: 7.49/37/86/28/4
   Physical Examination
   Gen: NAD on bipap, arousable to voice, moaning
   CV: RRR no murmurs but difficult to assess
   Pulm: decreased BS but difficult to assess
   Abd: NABS, soft, obese, NT
   Ext: warm, no edema
   Labs / Radiology
   263 K/uL
   9.0 g/dL
   171 mg/dL
   1.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   17 mg/dL
   106 mEq/L
   139 mEq/L
   28.2 %
   5.8 K/uL
        [image002.jpg]
                             [**2115-12-20**]  04:14 PM
                             [**2115-12-21**]  03:21 AM
                             [**2115-12-21**]  05:16 PM
                             [**2115-12-22**]  05:44 AM
                             [**2115-12-23**]  04:56 AM
                             [**2115-12-24**]  05:40 AM
                             [**2115-12-24**]  01:36 PM
                             [**2115-12-24**]  03:14 PM
                             [**2115-12-24**]  09:48 PM
                             [**2115-12-25**]  05:23 AM
   WBC
   7.2
   6.5
   6.3
   7.1
   5.8
   Hct
   28.8
   27.2
   27.5
   29.0
   28.2
   Plt
   [**Telephone/Fax (3) 10425**]42
   263
   Cr
   1.4
   1.3
   1.4
   1.2
   1.2
   1.3
   1.3
   1.5
   1.6
   TCO2
   29
   Glucose
   237
   175
   192
   238
   165
   173
   200
   226
   171
   Other labs: PT / PTT / INR:27.6/36.4/2.7, CK / CKMB /
   Troponin-T:176/4/<0.01, ALT / AST:23/25, Alk Phos / T Bili:128/1.0,
   Amylase / Lipase:32/47, Differential-Neuts:71.5 %, Band:2.0 %,
   Lymph:21.6 %, Mono:3.4 %, Eos:3.3 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.4 g/dL, LDH:193 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:4.5
   mg/dL
   Microbiology: urine [**12-23**] pending
   blood 12/3,4,5 pending
   Assessment and Plan
 DELIRIUM / CONFUSION
 BACTEREMIA
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CHOLANGITIS
   65 year-old morbidly obese gentleman w/ DM2 and history of
   cholecystitis admitted for cholangitis, s/p ERCP w/ CBD stent
   placement, extraction of CBD stones and sphincterotomy and subsequent
   sepsis.  Intubated due to volume overload and body habitus and
   extubated [**12-18**].  Now with altered mental status, corynebacteria
   bacteremia, in and out of afib/aflutter with RVR.
   #  afib: per chart, possible [**Last Name **] problem.  In and out of sinus.
   Heparin gtt and coumadin started then stopped after further chart
   review; pt with poor medical compliance and history of falls, felt to
   be poor coumadin candidate.  Converted yesterday after being in
   aflutter with amiodarone
   - Amiodarone gtt until 3pm (18H) then 400mg [**Hospital1 **].
   -PO Metoprolol
   - f/u cards recs
   - consider starting anticoagulation as will likely have medications
   given to him for a period of time
    # Altered Mental Status: Most likely delirium, and felt to be related
   to prolonged sedation while intubated.  Unlikely to be metabolic
   process given normal electrolytes.  CT head, TSH, RPR, B12/folate
   negative.
   - f/u final neuro recs, MRI will be unlikely given clinical condition
   -EKG shows baseline mildly prolonged QTc, repeat this am
   -haldol prn
   -psych consult
   #  corneybacterium and MSSA bacteremia:  now on Vanc, day 1: [**12-20**] pm
   for likely 2 week course and nafcillin with planned course through
   [**12-25**].
   -d/c nafcillin today
   -Vanc trough this AM high at 31, so hold am dose and change to 750mg IV
   BID
   # UTI: on Cipro. D1: [**12-23**]
   -f/u ctx
   # elevated INR: now downtrending.  Likely from poor vitamin K stores
   after 1 dose of warfarin
   -monitor daily
   -start heparin SC for pphx
   #. Respiratory failure with b/l pleural effusions on CXR.   Moreover,
   resp failure was likely redistribution of fluid from cholangitis/
   bacteremia, which is now improving.   Tolerated bipap at night.  On RA
   during day.
     -continue to monitor I/O
   # Hypertension: Pt cleared for POs and better controlled on PO meds
   though still has episodes to 220s SBP.
   - goal even to net negative 1L over day
   - PO amlodipine, lisinopril,  metoprolol, olmesartan, with lasix need
   on a daily basis
   - consider standing hydral PO if above measures do not work
   # SEPSIS: Hypotension now resolved, weaned off all pressors.  Likely he
   was hypotensive from sepsis from known infection from cholangitis.
   Patient is s/p ERCP w/ sphincterotomy and extraction of gallstones and
   purulent material.  Per ID, catheter tip with coag negative staph is
   likely contaminant and no need to broaden coverage.
    -- f/u all outstanding cultures
   -- arterial line pulled [**12-19**], CVL changed [**12-20**], and pulled [**12-22**]
    #. [**Last Name (un) **]
 Cr worsening likely from increased diuresis, likely was a
   combination of ATN and prerenal etiologies.
   - will continue to trend BUN/Cr
   - decrease vanc dose
    #. CHOLANGITIS
 ERCP following, recommended repeat in 6 weeks for
   stent pull
   -F/u ERCP and surgery recs
   ICU Care
   Nutrition: ground solids, thin liquids. PO meds whole with puree
   Glycemic Control:
   Lines:
   PICC Line - [**2115-12-22**] 03:50 PM
   Prophylaxis:
   DVT: start Heparin SC
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: PT consult, CM aware, being screened for rehab

2115-12-26 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2115-12-25**] 08:46 PM
 EKG - At [**2115-12-26**] 06:03 AM
   -Neuro: Most likely this is delirium.  MRI could show temporal infarct,
   but that would likely not change management. recommend seroquel
   -Psych: recommend haldol, If haldol does not provide adequate sedation
   could use quetiapine 25-50 at hs to try to normalize sleep-wake cycle,
   Avoid benzodiazepines, anticholinergics, narcotic analgesia
   -restarted home lasix
   -changed from NPH to Lantus
   -put back on amio drip to facilitate transfer to rehab
   -spit PM meds into bed, so gave 30 IV hydral x2 for htn to 190s at
   1830, changed metoprolol to 10 mg IV q8.  Had rapid a fib at 5:30 AM,
   pushed 10 IV lopressor.
   -having emesis, diarrhea -> c diff sent, lfts.  lipase slighly elevated
   at 75.  coffee ground emesis at 1 am (pos for occult blood).  Hct
   stable.  given IV PPI
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2115-12-25**] 08:45 PM
   Vancomycin - [**2115-12-25**] 08:45 PM
   Ciprofloxacin - [**2115-12-25**] 11:40 PM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2115-12-25**] 08:30 PM
   Hydralazine - [**2115-12-25**] 11:00 PM
   Heparin Sodium (Prophylaxis) - [**2115-12-26**] 12:00 AM
   Pantoprazole (Protonix) - [**2115-12-26**] 01:38 AM
   Metoprolol - [**2115-12-26**] 06:02 AM
   Other medications:
   Acetaminophen 4. Alteplase 1mg/2mL ( Clearance ie. PICC, tunneled
   access line ) 5. Amlodipine
   6. Amiodarone 7. Aspirin 8. Ciprofloxacin 9. Docusate Sodium 10.
   Famotidine 11. Furosemide 12. Glucagon
   13. Haloperidol 14. Haloperidol 15. Haloperidol 16. Heparin Flush (10
   units/ml) 17. Heparin 18. HydrALAzine
   19. HydrALAzine 20. 21. Insulin 22. Lactulose 23. Lisinopril 24.
   Metoprolol Tartrate 25. Metoprolol Tartrate
   26. Miconazole Powder 2% 27. Morphine Sulfate 28. Olmesartan 29.
   Ondansetron 30. Pantoprazole 31. Pneumococcal Vac Polyvalent
   32. Polyethylene Glycol 33. Potassium Chloride 34. Potassium Chloride
   35. Senna 36. Sodium Chloride 0.9% Flush
   37. Thiamine 38. Vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-12-26**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 124 (55 - 124) bpm
   BP: 92/42(53) {92/42(53) - 204/134(159)} mmHg
   RR: 23 (11 - 26) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 166.5 kg (admission): 153 kg
   Height: 57 Inch
             Total In:
                                                                  2,021 mL
                                                                    413 mL
   PO:
                                                                    380 mL
             TF:
   IVF:
                                                                  1,521 mL
                                                                    413 mL
   Blood products:
   Total out:
                                                                  3,180 mL
                                                                    685 mL
   Urine:
                                                                  2,830 mL
                                                                    535 mL
   NG:
                                                                    350 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,159 mL
                                                                   -272 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   291 K/uL
   8.8 g/dL
   343 mg/dL
   1.6 mg/dL
   30 mEq/L
   4.1 mEq/L
   17 mg/dL
   103 mEq/L
   138 mEq/L
   27.8 %
   7.9 K/uL
        [image002.jpg]
                             [**2115-12-21**]  05:16 PM
                             [**2115-12-22**]  05:44 AM
                             [**2115-12-23**]  04:56 AM
                             [**2115-12-24**]  05:40 AM
                             [**2115-12-24**]  01:36 PM
                             [**2115-12-24**]  03:14 PM
                             [**2115-12-24**]  09:48 PM
                             [**2115-12-25**]  05:23 AM
                            [**2115-12-26**]  01:05 AM
                            [**2115-12-26**]  04:21 AM
   WBC
   6.5
   6.3
   7.1
   5.8
   7.9
   Hct
   27.2
   27.5
   29.0
   28.2
   30.3
   27.8
   Plt
   [**Telephone/Fax (3) 10452**]63
   291
   Cr
   1.4
   1.2
   1.2
   1.3
   1.3
   1.5
   1.6
   1.6
   TCO2
   29
   Glucose
   192
   238
   165
   173
   200
   226
   171
   343
   Other labs: PT / PTT / INR:16.8/36.4/1.5, CK / CKMB /
   Troponin-T:176/4/<0.01, ALT / AST:26/25, Alk Phos / T Bili:123/1.3,
   Amylase / Lipase:42/75,, LDH:243 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.6 mg/dL
   Cdiff [**12-25**] neg
   Urine [**12-23**] neg
   Blood 12/3 now negative, [**12-20**], [**12-21**] pending
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 DELIRIUM / CONFUSION
 BACTEREMIA
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CHOLANGITIS
   65 year-old morbidly obese gentleman w/ DM2 and history of
   cholecystitis admitted for cholangitis, s/p ERCP w/ CBD stent
   placement, extraction of CBD stones and sphincterotomy and subsequent
   sepsis.  Intubated due to volume overload and body habitus and
   extubated [**12-18**].  Now with altered mental status, corynebacteria
   bacteremia, in and out of afib/aflutter with RVR.
   # hematemesis: o/n team felt that because of increased diet.  Could be
   a gastroenteritis given concurrent diarrhea though seems that he has
   had that all along.  Could also be a stress ulcer as he has been in the
   ICU, however has been on an H2 blocker.  MS change not significant to
   warrant reimaging.
   -check coags as below
   -type and screen
   -consider NG tube and GI consult
   # Altered Mental Status: Most likely delirium, and felt to be related
   to prolonged sedation while intubated.  Unlikely to be metabolic
   process given normal electrolytes.  CT head, TSH, RPR, B12/folate
   negative.
   -appreciate neuro and psych recs
   - MRI will be unlikely given clinical condition and the fact that it
   would not change treatment
   -haldol prn
   -psych consult
   -per psych, If haldol does not provide adequate sedation could use
   quetiapine 25-50 at hs to try to normalize sleep-wake cycle, Avoid
   benzodiazepines, anticholinergics, narcotic analgesia
   #  afib: per chart, possible [**Last Name **] problem.  In and out of sinus.
   Heparin gtt and coumadin started then stopped after further chart
   review; pt with poor medical compliance and history of falls, felt to
   be poor coumadin candidate.  Converted o/n with IV Lopressor
   - Amiodarone gtt
   -PO Metoprolol
   #. [**Last Name (un) **]
 Cr worsening likely from increased diuresis, likely was a
   combination of ATN and prerenal etiologies.
   - will continue to trend BUN/Cr
   -send urine lytes as not checked since [**12-15**]
   #  corneybacterium and MSSA bacteremia:  now on Vanc, day 1: [**12-20**] pm
   for likely 2 week course and nafcillin d/c
d this am.
   -check Vanc trough tomorrow am given change in dosing to 750mg [**Hospital1 **]
   # UTI: on Cipro. D1: [**12-23**] for planned 7 day course
   -f/u ctx is negative
   # elevated INR: was downtrending.  Likely from poor vitamin K stores
   after 1 dose of warfarin
   -checking this am given hematemesis
   #. Respiratory failure with b/l pleural effusions on CXR.   Moreover,
   resp failure was likely redistribution of fluid from cholangitis/
   bacteremia, which is now improving.   Tolerated bipap at night.  On RA
   during day.
     -continue to monitor I/O
   # Hypertension: Pt cleared for POs and better controlled on PO meds
   though still has episodes to 220s SBP.
   - goal even to net negative 1L over day
   - PO amlodipine, lisinopril,  metoprolol, olmesartan, with home lasix
   added yesterday
   - stop lasix and readdress on a daily need given elevated Cr and
   vomiting
   - consider standing hydral PO if above measures do not work
   # SEPSIS: Hypotension now resolved, weaned off all pressors.  Likely he
   was hypotensive from sepsis from known infection from cholangitis.
   Patient is s/p ERCP w/ sphincterotomy and extraction of gallstones and
   purulent material.  Per ID, catheter tip with coag negative staph is
   likely contaminant and no need to broaden coverage.
    -- f/u all outstanding cultures
   -- arterial line pulled [**12-19**], CVL changed [**12-20**], and pulled [**12-22**]
    #. CHOLANGITIS
 ERCP following, recommended repeat 1^st week of
   [**Month (only) 2877**] for stent pull
   -F/u ERCP and surgery recs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2115-12-22**] 03:50 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:  IV PPI daily
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: to rehab once has guardianship

2115-12-26 11:05:00 Physician Attending Progress Note
Chief Complaint: Septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   C/o stomach ache this am. Less agitated. One episode of emesis after
   eating large meal.
   24 Hour Events:
 STOOL CULTURE - At [**2115-12-25**] 08:46 PM
 EKG - At [**2115-12-26**] 06:03 AM
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2115-12-25**] 08:45 PM
   Ciprofloxacin - [**2115-12-25**] 11:40 PM
   Vancomycin - [**2115-12-26**] 08:36 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2115-12-25**] 08:30 PM
   Hydralazine - [**2115-12-25**] 11:00 PM
   Heparin Sodium (Prophylaxis) - [**2115-12-26**] 12:00 AM
   Pantoprazole (Protonix) - [**2115-12-26**] 01:38 AM
   Metoprolol - [**2115-12-26**] 06:02 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, Nausea, Emesis, No(t) Diarrhea, No(t)
   Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: Agitated, No(t) Suicidal, Delirious, Daytime
   somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2115-12-26**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (97
   HR: 68 (68 - 124) bpm
   BP: 140/61(79) {92/42(53) - 204/134(159)} mmHg
   RR: 18 (11 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 166.5 kg (admission): 153 kg
   Height: 57 Inch
             Total In:
                                                                  2,021 mL
                                                                    762 mL
   PO:
                                                                    380 mL
             TF:
   IVF:
                                                                  1,521 mL
                                                                    762 mL
   Blood products:
   Total out:
                                                                  3,180 mL
                                                                    835 mL
   Urine:
                                                                  2,830 mL
                                                                    685 mL
   NG:
                                                                    350 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,159 mL
                                                                    -73 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal, No(t) Distant,
   No(t) Loud, No(t) Widely split , No(t) Fixed), No(t) S3, No(t) S4,
   No(t) Rub, (Murmur: No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : small, No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: No(t) Clear : , Crackles : few, No(t) Bronchial: ,
   Wheezes : few, Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x1, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   291 K/uL
   343 mg/dL
   1.6 mg/dL
   30 mEq/L
   4.1 mEq/L
   17 mg/dL
   103 mEq/L
   138 mEq/L
   27.8 %
   7.9 K/uL
        [image002.jpg]
                             [**2115-12-21**]  05:16 PM
                             [**2115-12-22**]  05:44 AM
                             [**2115-12-23**]  04:56 AM
                             [**2115-12-24**]  05:40 AM
                             [**2115-12-24**]  01:36 PM
                             [**2115-12-24**]  03:14 PM
                             [**2115-12-24**]  09:48 PM
                             [**2115-12-25**]  05:23 AM
                            [**2115-12-26**]  01:05 AM
                            [**2115-12-26**]  04:21 AM
   WBC
   6.5
   6.3
   7.1
   5.8
   7.9
   Hct
   27.2
   27.5
   29.0
   28.2
   30.3
   27.8
   Plt
   [**Telephone/Fax (3) 10452**]63
   291
   Cr
   1.4
   1.2
   1.2
   1.3
   1.3
   1.5
   1.6
   1.6
   TCO2
   29
   Glucose
   192
   238
   165
   173
   200
   226
   171
   343
   Other labs: PT / PTT / INR:14.8/26.0/1.3, CK / CKMB /
   Troponin-T:176/4/<0.01, ALT / AST:26/25, Alk Phos / T Bili:123/1.3,
   Amylase / Lipase:42/75, Differential-Neuts:71.5 %, Band:2.0 %,
   Lymph:21.6 %, Mono:3.4 %, Eos:3.3 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.4 g/dL, LDH:243 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:4.6
   mg/dL
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 DELIRIUM / CONFUSION
 BACTEREMIA
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CHOLANGITIS
   He has improved so that now his most active issue is his altered MS.
   Seems better controlled on Haldol but it is unclear what his new
   baseline will be.  With CT showing signif atrophy he has some baseline
   deficit but is not at we understand his baseline to be.  Has been
   substantially diuresed but we think he is close to euvolemic now.  Will
   place on standing lasix.  Hct is stable but low - suspect some in
   anemia of chronic dis but with low MCV we are sending Fe studies
   Time spent 35 min
   ICU Care
   Nutrition:
   Comments: Full
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2115-12-22**] 03:50 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Not a candidate)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes